2151-03-23 00:39:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81W RLL mass and LAD, underwent rigid bronc today for biopsy. Underwent
   TBNA and TBBx and developed hypoxemia after the procedure requiring NRB
   in PACU. 7.27/61/95 on NRB. Transferred to ICU because of her O2 needs.
                                 History obtained from housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-3-23**] 12:20 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2151-3-23**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   CAD
   CHF
   HTN
   emphysema
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea
   Flowsheet Data as of  [**2151-3-23**] 12:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 90 (90 - 96) bpm
   BP: 93/39(53) {93/39(53) - 113/55(70)} mmHg
   RR: 26 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,100 mL
                                                                    150 mL
   PO:
             TF:
   IVF:
                                                                  1,100 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: 80% O2
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   hypoxemia post-bronch - has emphysema and lung mass - possible
   explanations for hypoxemia include volume loss, aspiration, hemorrhage.
   will continue supportive care and wean O2 as tolerated.
   likely widespread lung cancer - await biopsy results, palliative
   treatments can be considered once outpatient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-3-22**] 10:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-03-24 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had four episodes of sustained VT that resolved with amiodarone. Was
   loaded with 150mg x 2 and then started on amiodarone drip.  Had
   respiratory distress at this time that required intubation by
   Anesthesia.  Antibiotics broadened to Vancomycin/cefepime. A-line
   placed after intubation, CVL placed as well. Patient was started on
   Phenylephrine for hypotension into the 80s systolic.
   Troponins 0.07 -> 0.25 -> 0.19 (CK, CK-MB remain low). Started on
   heparin/statin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-3-23**] 12:20 AM
   Ampicillin/Sulbactam (Unasyn) - [**2151-3-23**] 02:00 PM
   Vancomycin - [**2151-3-23**] 05:00 PM
   Cefipime - [**2151-3-23**] 06:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.9 mcg/Kg/min
   Amiodarone - 1 mg/min
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Amiodarone - [**2151-3-23**] 02:30 PM
   Morphine Sulfate - [**2151-3-23**] 02:30 PM
   Midazolam (Versed) - [**2151-3-23**] 05:30 PM
   Fentanyl - [**2151-3-23**] 05:42 PM
   Heparin Sodium - [**2151-3-24**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 80 (50 - 124) bpm
   BP: 90/44(60) {85/44(-19) - 116/59(78)} mmHg
   RR: 21 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.7 kg (admission): 74.4 kg
             Total In:
                                                                  4,492 mL
                                                                    416 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  4,432 mL
                                                                    416 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    165 mL
   Urine:
                                                                  1,190 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,302 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 480 (480 - 480) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 43.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/49/122/24/4
   Ve: 8.6 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General: intubated
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   766 K/uL
   8.5 g/dL
   118 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   28.0 %
   19.3 K/uL
        [image002.jpg]
                             [**2151-3-22**]  11:36 PM
                             [**2151-3-23**]  07:13 AM
                             [**2151-3-23**]  04:21 PM
                             [**2151-3-23**]  04:39 PM
                             [**2151-3-23**]  10:31 PM
                             [**2151-3-24**]  03:44 AM
                             [**2151-3-24**]  03:54 AM
   WBC
   19.8
   17.8
   28.1
   19.3
   Hct
   29.9
   28.6
   30.2
   28.0
   Plt
   [**Telephone/Fax (3) 11690**]66
   Cr
   1.0
   1.0
   1.1
   1.0
   TropT
   <0.01
   0.07
   0.25
   0.19
   TCO2
   29
   31
   Glucose
   100
   89
   129
   116
   110
   118
   Other labs: PT / PTT / INR:15.1/30.3/1.3, CK / CKMB /
   Troponin-T:42//0.19, ALT / AST:[**4-6**], Alk Phos / T Bili:72/0.2,
   Differential-Neuts:91.2 %, Lymph:6.0 %, Mono:2.2 %, Eos:0.5 %, Lactic
   Acid:1.5 mmol/L, Ca++:10.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Bronchial washings ([**2151-3-22**]): positive for malignant cells consistent
   with non-small cell carcinoma
   Assessment and Plan
   81 year old woman with hx of CAD, MI, HTN, hyperlipidemia and a
   necrotizing lung mass with path consistent with non-small cell
   carcinoma with hospital course complicated by sustained VT with
   respiratory decompensation requiring intubation
   # Respiratory distress. Volume overload vs. post-obstructive PNA.
   Increased work of breathing yesterday associated with VT as below as
   well as troponin leak. Patient was intubated by anaesthesia and did
   well on ventilator overnight. ABx were broadened (from levo), A-line
   and CVL were placed. Bedside bronch done, BAL negative for PMNs or
   organisms.
   - Continue vanco/cefepime (day 1 = [**3-23**]) for duration of 14 days
   - Monitor on spontaneous breathing trial (RSBI < 100 this morning) and
   move towards extubation today
   # VT. Possibly triggered by hypoxia/respiratory distress. 4 episodes
   over ~30 minutes which broke with amiodarone (150 x 2 and then 0.5
   mg/min drip) and respiratory support.  No episodes since intubation and
   starting amiodarone gtt
   - Completing 18-hour amiodarone drip,  then plan to monitor off
   amiodarone, hold off on oral amio therapy
   - Monitor on telemetry
   # Troponin leak. Likely demand ischemia in setting of tachyarrhythmia,
   hypoxia. No significant increase in CK, CK-MB. Troponins now
   down-trending.
   - d/c heparin
   - Trend EKG
   # RLL mass:  Pathology consistent with non-small cell carcinoma
   - hypercalcemia work-up
   .
   # CAD: stable, is on aspirin
   - continue aspirin and statin
   - check CEs to make sure ischemia not cause of respiratory distress
   .
   # CHF: has known diastolic CHF
   - diurese as above, cycle CEs as above
   - no need to repeat echo at this time
   .
   # HTN: hypertensive at baseline, now with moderately low BPs with
   systolics in the 90s.
   - hold lisinopril and inderol
   .
   # Chronic pain: has chronic pain and now R sided pleuritic pain from
   the procedure.  Is on lyrica and darvacet and a small dose benzo at
   home.  Will hold at this time.
   - codeine for the cough
   - low dose morphine for pain control
   .
   # Chronic kidney disease: check electrolytes today
   .
   # GERD: continue protonix daily
   .
   # Anxiety: hold benzo tonight while respiratory status is compromised;
   restart as needed.
   .
   # FEN: No IVF, replete electrolytes, sips
   # Prophylaxis: pneumoboots for tonight
   # Access: peripherals
   # Code: full
   # Communication: Patient, friend, # on white board
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-3-23**] 01:58 PM
   18 Gauge - [**2151-3-23**] 02:20 PM
   Arterial Line - [**2151-3-23**] 03:30 PM
   Multi Lumen - [**2151-3-23**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-03-25 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2151-3-24**] 12:30 PM
 NON-INVASIVE VENTILATION - START [**2151-3-24**] 06:35 PM
 NON-INVASIVE VENTILATION - STOP [**2151-3-25**] 12:03 AM
 INVASIVE VENTILATION - START [**2151-3-25**] 06:20 AM
   /31/10
   - Extubated in the AM after successful breathing trial. However,
   patient had difficulty tolerating O2 by face mask and developed
   increased work of breathing with sinus tach to 110s-120s for most of
   afternoon. HR not responsive to IVF or morphine/xanax.
   - Non-invasive trial attempted and patient initially able to tolerate,
   but later very uncomfortable and pulling at mask. Converted to NRB and
   O2 sats 100%; then to 5 L by NC with sats in mid-90s.
   - Re-intubated at ~5:30 AM on [**2151-3-25**] after increased work of breathing,
   diaphoresis
   - Bronchial brushings returned positive for malignant cells consistent
   with non-small cell carcinoma.
   - Hypercalcemia work up initiated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-3-23**] 12:20 AM
   Ampicillin/Sulbactam (Unasyn) - [**2151-3-23**] 02:00 PM
   Vancomycin - [**2151-3-24**] 07:52 AM
   Cefipime - [**2151-3-24**] 06:30 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2151-3-25**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-25**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 98 (65 - 133) bpm
   BP: 96/50(65) {93/43(60) - 160/90(116)} mmHg
   RR: 21 (20 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.7 kg (admission): 74.4 kg
             Total In:
                                                                  1,485 mL
                                                                    330 mL
   PO:
             TF:
   IVF:
                                                                  1,425 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                    305 mL
   Urine:
                                                                    655 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    830 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 426 (426 - 675) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/41/175/23/1
   Ve: 13 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   563 K/uL
   8.2 g/dL
   108 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.6 mEq/L
   18 mg/dL
   105 mEq/L
   138 mEq/L
   26.7 %
   15.5 K/uL
        [image002.jpg]
                             [**2151-3-23**]  07:13 AM
                             [**2151-3-23**]  04:21 PM
                             [**2151-3-23**]  04:39 PM
                             [**2151-3-23**]  10:31 PM
                             [**2151-3-24**]  03:44 AM
                             [**2151-3-24**]  03:54 AM
                             [**2151-3-24**]  07:39 AM
                             [**2151-3-24**]  04:06 PM
                             [**2151-3-25**]  02:13 AM
                             [**2151-3-25**]  05:04 AM
   WBC
   17.8
   28.1
   19.3
   15.5
   Hct
   28.6
   30.2
   28.0
   26.7
   Plt
   695
   648
   766
   563
   Cr
   1.0
   1.1
   1.0
   0.8
   TropT
   0.07
   0.25
   0.19
   TCO2
   29
   31
   28
   26
   27
   Glucose
   89
   129
   116
   110
   118
   100
   108
   Other labs: PT / PTT / INR:16.3/95.5/1.4, Albumin:2.2 g/dL ([**2151-3-24**]),
   Ca++:11.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   -PTH ([**3-23**]): 6    TSH: 2.4  ([**3-24**])
   -Corrected calcium 13.6
   -Bronchial washing ([**3-22**]) consistent with non-small cell carcinoma
   Assessment and Plan
   81 year old woman with hx of CAD, MI, HTN, hyperlipidemia and a
   necrotizing lung mass with path consistent with non-small cell
   carcinoma with hospital course complicated by sustained VT with
   respiratory decompensation requiring intubation
   # Respiratory Failure. Volume overload vs. post-obstructive PNA.
   Increased work of breathing yesterday associated with VT. Patient was
   intubated by anaesthesia and did well on ventilator overnight. ABx were
   broadened (from levo), A-line and CVL were placed. Bedside bronch done,
   BAL negative for PMNs or organisms.  Patient extubated [**2151-3-25**] but with
   respiratory decompensation requiring re-intubation
   - Continue vanco/cefepime (day 1 = [**3-23**]) for duration of 14 days
   - Monitor on spontaneous breathing trial (RSBI < 100 this morning) and
   move towards extubation today
   #Hypercalcemia:
   - check parathyroid hormone related protein (cannot add on)
   # VT. Possibly triggered by hypoxia/respiratory distress. 4 episodes
   over ~30 minutes which broke with amiodarone (150 x 2 and then 0.5
   mg/min drip) and respiratory support.  Was intubated and started on
   amiodarone drip with no more episodes. Completed amiodarone drip,
   monitored off PO with no more episodes.
   - Monitor on telemetry
   # Troponin leak. Likely demand ischemia in setting of tachyarrhythmia,
   hypoxia. No significant increase in CK, CK-MB. Troponins now
   down-trending.
   - d/c heparin
   - Trend EKG
   # RLL mass:  Pathology consistent with non-small cell carcinoma
   - hypercalcemia work-up
   .
   # CAD: stable, is on aspirin
   - continue aspirin and statin
   - check CEs to make sure ischemia not cause of respiratory distress
   .
   # CHF: has known diastolic CHF
   - diurese as above, cycle CEs as above
   - no need to repeat echo at this time
   .
   # HTN: hypertensive at baseline, now with moderately low BPs with
   systolics in the 90s.
   - hold lisinopril and inderol
   .
   # Chronic pain: has chronic pain and now R sided pleuritic pain from
   the procedure.  Is on lyrica and darvacet and a small dose benzo at
   home.  Will hold at this time.
   - codeine for the cough
   - low dose morphine for pain control
   .
   # Chronic kidney disease: check electrolytes today
   .
   # GERD: continue protonix daily
   .
   # Anxiety: hold benzo tonight while respiratory status is compromised;
   restart as needed.
   .
   # FEN: No IVF, replete electrolytes, sips
   # Prophylaxis: pneumoboots for tonight
   # Access: peripherals
   # Code: full
   # Communication: Patient, friend, # on white board
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-3-23**] 01:58 PM
   18 Gauge - [**2151-3-23**] 02:20 PM
   Arterial Line - [**2151-3-23**] 03:30 PM
   Multi Lumen - [**2151-3-23**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-03-26 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ONC: start zometa (gave pamidronate, which is formulary equivalent;
   per pharmacy this can be given qweek max)
   - CT/CTA chest: no PE, large asymmetric R sided effusion suspicious for
   malignant effusion, compressive atelectasis and masses in R lung
   - Rad Onc: No emergent XRT unless there is proximal airway compression.
   Will need repeat Chest CT (completed).  Could consider thoracentesis to
   help with extubation.
   - Echo: EF 34%, worrisome for new LAD infarct.  Cards c/s called,
   thinking about cath maybe Monday.  Recommended transfuse to Hct > 30%.
   No BB if we think she has acute heart failure right now.  Consider amio
   gtt if she goes back into VT.
   - transfused 2u pRBC
   - tried to gently diurese this PM with IV lasix 20 mg IV x 2 but
   patient became hypotensive with SBP dropping to high 70s and 80s.  Gave
   500 cc NS bolus and pressures improved.  Patient also appears to be
   having runs of Afib and NSVT on telemetry.
   - EKG obtained this AM, shows Q waves inferiorly and poor R wave
   progression consistent with new anterior infarct
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2151-3-23**] 02:00 PM
   Vancomycin - [**2151-3-25**] 08:00 AM
   Cefipime - [**2151-3-25**] 07:30 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2151-3-25**] 10:00 PM
   Pantoprazole (Protonix) - [**2151-3-26**] 12:00 AM
   Midazolam (Versed) - [**2151-3-26**] 04:00 AM
   Fentanyl - [**2151-3-26**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-26**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 107 (86 - 112) bpm
   BP: 95/54(68) {85/45(59) - 141/78(102)} mmHg
   RR: 25 (20 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.7 kg (admission): 74.4 kg
   Height: 63 Inch
           Total In:
                                                                  2,363 mL
                                                                  1,299 mL
   PO:
           TF:
                                                                     58 mL
                                                                    143 mL
   IVF:
                                                                  1,683 mL
                                                                    657 mL
   Blood products:
                                                                    471 mL
                                                                    229 mL
   Total out:
                                                                  1,860 mL
                                                                    920 mL
   Urine:
                                                                  1,860 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    503 mL
                                                                    379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 452 (452 - 554) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 96%
   ABG: 7.48/39/67/26/5
   Ve: 16.9 L/min
   PaO2 / FiO2: 134
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   502 K/uL
   9.8 g/dL
   107 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.2 mEq/L
   14 mg/dL
   102 mEq/L
   137 mEq/L
   30.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2151-3-24**]  03:44 AM
                             [**2151-3-24**]  03:54 AM
                             [**2151-3-24**]  07:39 AM
                             [**2151-3-24**]  04:06 PM
                             [**2151-3-25**]  02:13 AM
                             [**2151-3-25**]  05:04 AM
                             [**2151-3-25**]  02:59 PM
                             [**2151-3-25**]  03:17 PM
                             [**2151-3-26**]  04:17 AM
                             [**2151-3-26**]  04:36 AM
   WBC
   19.3
   15.5
   13.2
   14.8
   Hct
   28.0
   26.7
   24.5
   30.9
   Plt
   766
   563
   488
   502
   Cr
   1.0
   0.8
   0.7
   0.7
   TropT
   0.19
   0.15
   TCO2
   31
   28
   26
   27
   27
   30
   Glucose
   110
   118
   100
   108
   103
   107
   Other labs: PT / PTT / INR:15.0/27.1/1.3, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:[**4-6**], Alk Phos / T Bili:72/0.2,
   Differential-Neuts:91.2 %, Lymph:6.0 %, Mono:2.2 %, Eos:0.5 %,
   Fibrinogen:719 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:189
   IU/L, Ca++:10.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely [**1-26**] baseline lung parenchymal
   abnormalities [**1-26**] malignancy worsened by pleural effusion (R>L).  PNA
   cannot be excluded but is less likely.  PE not appreciated on CTA.  Rad
   Onc, at this time, does not feel that radiation would be helpful in
   improving oxygenation
   - empiric treatment with abx (vanc/cefepime), D4/8
   - pleural effusion could be [**1-26**] acute heart failure; less likely to be
   malignant or parapneumonic in nature
   - diuresis as tolerated; goal diuresis -500 cc
 1L; use lasix drip to
   avoid venodilatory effect of boluses,
   - continue aspirin, also reduces venodilation of lasix
   - restart amio
   - consider therapeutic thoracentesis if patient continues to be
   difficult to wean off vent
   - f/u Rad Onc recs
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed.
   - f/u Cards recs
   - goal Hct > 30
   # ventricular tachycardia
 Likely triggered by recent ischemic event
   +/- hypoxia/respiratory distress.  She initially had 4 episodes over
   ~30 minutes which broke with amiodarone bolus + gtt.  Completed amio
   gtt with no further dosing.
   - continue to monitor; consider amio gtt vs. PO if ectopy or VT
   continues
   - pull [**Month/Day (2) 864**] back to reduce ectopy
   # hypercalcemia - Albumin only 2.2 so corrected calcium actually >12.
   With appropriately low PTH this is likely from malignancy related tumor
   factors.  Dosed with pamidronate yesterday.
   - Follow up parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   # anemia
 s/p transfusion of 2u pRBC yesterday.
   - continue to trend Hct
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - family might not know; attempt to wean sedation to have goals of
   care, clear up who should know about prognosis/make decisions on her
   behalf
   - Follow up Rad Onc, Heme Onc recs
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   .
   #. Access - [**Last Name (LF) 864**], [**First Name3 (LF) 865**]
   .
   #. PPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   .
   #. Code - full
   .
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   .
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-3-25**] 06:10 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-3-23**] 01:58 PM
   18 Gauge - [**2151-3-23**] 02:20 PM
   Arterial Line - [**2151-3-23**] 03:30 PM
   Multi Lumen - [**2151-3-23**] 05:45 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-03-27 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Onc recs - none
   - cards recs - not going to cath.  probably.
   - rad onc recs - none
   - pull back line, appropriate location.
   - PM lytes were normal.  lasix gtt were maintained but still 400cc
   positive at 1830.  ACEI is deferred due to hypotension.
   - started amio PO 200mg [**Hospital1 **] for ventricular ectopy
   - decreased sedation - need to address goals of care.
   - vent - currently on pressure support, now tachypnea, continue
   suctioning - no change for now, SBT in a day or two.  We increased
   PEEP.
   - transaminitis mild.  Lipase negative.
   - Family meeting noted pt to be DNR.
   - UA/UCx, BCx were done due to temp of 101.4 overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-25**] 08:00 AM
   Cefipime - [**2151-3-26**] 06:29 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-3-27**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-3-27**] 01:00 AM
   Fentanyl - [**2151-3-27**] 04:00 AM
   Midazolam (Versed) - [**2151-3-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-27**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.3
   HR: 104 (97 - 113) bpm
   BP: 109/59(76) {83/49(62) - 166/96(122)} mmHg
   RR: 28 (20 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.6 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,852 mL
                                                                    773 mL
   PO:
             TF:
                                                                    703 mL
                                                                    283 mL
   IVF:
                                                                  1,150 mL
                                                                    231 mL
   Blood products:
                                                                    229 mL
   Total out:
                                                                  2,837 mL
                                                                    535 mL
   Urine:
                                                                  2,837 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 422 (372 - 425) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.46/42/105/29/5
   Ve: 11.5 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   456 K/uL
   9.7 g/dL
   120 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.6 mEq/L
   17 mg/dL
   100 mEq/L
   137 mEq/L
   30.0 %
   16.8 K/uL
        [image002.jpg]
                             [**2151-3-25**]  02:13 AM
                             [**2151-3-25**]  05:04 AM
                             [**2151-3-25**]  02:59 PM
                             [**2151-3-25**]  03:17 PM
                             [**2151-3-26**]  04:17 AM
                             [**2151-3-26**]  04:36 AM
                             [**2151-3-26**]  04:49 PM
                             [**2151-3-27**]  03:10 AM
                             [**2151-3-27**]  03:23 AM
                             [**2151-3-27**]  06:18 AM
   WBC
   15.5
   13.2
   14.8
   16.8
   Hct
   26.7
   24.5
   30.9
   30.6
   30.0
   Plt
   [**Telephone/Fax (3) 11733**]56
   Cr
   0.8
   0.7
   0.7
   0.8
   0.9
   TropT
   0.15
   TCO2
   27
   27
   30
   34
   31
   Glucose
   108
   103
   107
   116
   120
   Other labs: PT / PTT / INR:15.1/30.8/1.3, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:107/138, Alk Phos / T Bili:65/0.9,
   Amylase / Lipase:33/36, Differential-Neuts:91.2 %, Lymph:6.0 %,
   Mono:2.2 %, Eos:0.5 %, Fibrinogen:719 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, LDH:203 IU/L, Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely [**1-26**] baseline lung parenchymal
   abnormalities [**1-26**] malignancy worsened by pleural effusion (R>L).  PNA
   cannot be excluded but is less likely.  PE not appreciated on CTA.  Rad
   Onc, at this time, does not feel that radiation would be helpful in
   improving oxygenation. pleural effusion could be [**1-26**] acute heart
   failure; less likely to be malignant or parapneumonic in nature.
   Patient made DNR/DNI
   - empiric treatment with abx (vanc/cefepime), D5/8
   - diuresis as tolerated, limited by low BP; goal diuresis -500 cc
 1L;
   use lasix drip to avoid venodilatory effect of boluses,
   - wean sedation to raise pressures
   - repeat SBT
   - consider milrinone drip if low pressure
   - continue aspirin, also reduces venodilation of lasix
   - continue amio
   - consider therapeutic thoracentesis if patient continues to be
   difficult to wean off vent and in line with goals
   - f/u Rad Onc recs, if any
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed.
   - avoiding bb
   - on lasix gtt, consider milrinone prn
   - f/u Cards recs
   - goal Hct > 30
   .
   # ventricular tachycardia
 Likely triggered by recent ischemic event
   +/- hypoxia/respiratory distress.  She initially had 4 episodes over
   ~30 minutes which broke with amiodarone bolus + gtt.  Completed amio
   gtt, continue PO amio. Pulled back [**Month/Day (2) 864**] and vtach has ceased
   - continue to monitor; consider amio gtt vs. PO if ectopy or VT
   continues
   .
   Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI, poor
   forward flow and several new medications.
   - trend
   .
   # hypercalcemia - Albumin only 2.2 so corrected calcium actually >12.
   With appropriately low PTH this is likely from malignancy related tumor
   factors.  Dosed with pamidronate yesterday.
   - Follow up parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - patient DNR/DNI, continue to dynamically assess goals of care
   - Follow up Rad Onc, Heme Onc recs
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   .
   #. Access - [**Last Name (LF) 864**], [**First Name3 (LF) 865**]
   #. PPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   .
   #. Code - DNR/DNI
   .
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   .
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-3-27**] 05:58 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-3-23**] 02:20 PM
   Arterial Line - [**2151-3-23**] 03:30 PM
   Multi Lumen - [**2151-3-23**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-03-28 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2151-3-27**] 10:57 PM
 URINE CULTURE - At [**2151-3-27**] 10:57 PM
 FEVER - 102.2
F - [**2151-3-27**] 10:00 PM
   - ABG at 1427: 7.45/47/222/34/8
   - agitated --> bolused sedation --> hypotensive to 70's
   - ABG at 2230: 7.51/42/83/35/8, lactate 1.6
   - spiked to 102
   - CXR: unchanged (my read)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-27**] 07:50 AM
   Cefipime - [**2151-3-27**] 06:11 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-3-27**] 10:00 PM
   Fentanyl - [**2151-3-27**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2151-3-27**] 10:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-28**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 39
C (102.2
   Tcurrent: 36.8
C (98.3
   HR: 88 (83 - 125) bpm
   BP: 88/47(61) {72/42(54) - 163/94(120)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 74.4 kg
   Height: 63 Inch
    CVP: 11 (11 - 15)mmHg
   Total In:
                                                                  2,483 mL
                                                                  1,185 mL
   PO:
   TF:
                                                                    968 mL
                                                                    314 mL
   IVF:
                                                                    855 mL
                                                                    872 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                    460 mL
   Urine:
                                                                  2,615 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -132 mL
                                                                    725 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 469 (0 - 469) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 176
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/46/99.[**Numeric Identifier 433**]/29/8
   Ve: 12.2 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   482 K/uL
   10.0 g/dL
   131 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.8 mEq/L
   25 mg/dL
   97 mEq/L
   136 mEq/L
   31.7 %
   19.5 K/uL
        [image002.jpg]
                             [**2151-3-26**]  04:49 PM
                             [**2151-3-27**]  03:10 AM
                             [**2151-3-27**]  03:23 AM
                             [**2151-3-27**]  06:18 AM
                             [**2151-3-27**]  01:13 PM
                             [**2151-3-27**]  01:32 PM
                             [**2151-3-27**]  10:16 PM
                             [**2151-3-27**]  11:14 PM
                             [**2151-3-28**]  05:30 AM
                             [**2151-3-28**]  05:34 AM
   WBC
   16.8
   19.5
   Hct
   30.6
   30.0
   31.7
   Plt
   456
   482
   Cr
   0.8
   0.9
   1.0
   1.2
   TCO2
   34
   31
   34
   35
   35
   34
   Glucose
   116
   120
   119
   131
   Other labs: PT / PTT / INR:13.9/31.0/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:48/34, Alk Phos / T Bili:93/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:91.2 %, Lymph:6.0 %,
   Mono:2.2 %, Eos:0.5 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:184 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
Patient made DNR/DNI.  Likely [**1-26**] baseline lung
   parenchymal abnormalities [**1-26**] malignancy worsened by pleural effusion
   (R>L).  PNA cannot be excluded but is less likely.  PE not appreciated
   on CTA.  Rad Onc, at this time, does not feel that radiation would be
   helpful in improving oxygenation. pleural effusion could be [**1-26**] acute
   heart failure; less likely to be malignant or parapneumonic in nature.
   Overnight on [**3-27**], patient had labile SBP that was bolused repeatedly.
   Pressures are an issue
   - empiric treatment with abx (vanc/cefepime), D6/8
 consider switching
   to zosyn if continues to have fevers
   - holding on diuresis, d/c lasix drip
   - attempt to control afterload
   - transduce CVP for targetted understanding of fluid status
   - wean sedation to raise pressures
   - can use low dose pressors as need
   - continue aspirin
   - continue amio
   - f/u Rad Onc recs, if any
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed.
   - avoiding bb
   - on lasix gtt, consider milrinone prn
   - f/u Cards recs
   - goal Hct > 30
   .
   # ventricular tachycardia
 Likely triggered by recent ischemic event
   +/- hypoxia/respiratory distress.  She initially had 4 episodes over
   ~30 minutes which broke with amiodarone bolus + gtt.  Completed amio
   gtt, continue PO amio. Pulled back [**Month/Day (4) 864**] and vtach has ceased
   - continue to monitor; consider amio gtt vs. PO if ectopy or VT
   continues
   .
   Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI, poor
   forward flow and several new medications.
   - trend
   .
   # hypercalcemia - Albumin only 2.2 so corrected calcium actually >12.
   With appropriately low PTH this is likely from malignancy related tumor
   factors.  Dosed with pamidronate 4.2, improving.
   - Follow up parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - patient DNR/DNI, continue to dynamically assess goals of care
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   .
   #. Access - [**Last Name (LF) 864**], [**First Name3 (LF) 865**]
   #. PPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   .
   #. Code - DNR/DNreintubate
   .
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   .
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-3-28**] 06:41 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-3-23**] 02:20 PM
   Arterial Line - [**2151-3-23**] 03:30 PM
   Multi Lumen - [**2151-3-23**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-03-28 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   NSCLC, RLL lung mass, CAD
   24 Hour Events:
 FEVER - 102.2
F - [**2151-3-27**] 10:00 PM
   SBT revealed RSBI of ~75 after bolus. RSBI otherwise has been ~175
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2151-3-27**] 06:11 PM
   Vancomycin - [**2151-3-28**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-28**] 08:09 AM
   Midazolam (Versed) - [**2151-3-28**] 08:10 AM
   Fentanyl - [**2151-3-28**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-28**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 39
C (102.2
   Tcurrent: 36.5
C (97.7
   HR: 84 (84 - 125) bpm
   BP: 102/54(70) {72/43(54) - 140/73(98)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 74.4 kg
   Height: 63 Inch
   CVP: 11 (11 - 15)mmHg
   Total In:
                                                                  2,483 mL
                                                                  1,423 mL
   PO:
   TF:
                                                                    968 mL
                                                                    313 mL
   IVF:
                                                                    855 mL
                                                                  1,110 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                    607 mL
   Urine:
                                                                  2,615 mL
                                                                    607 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -132 mL
                                                                    816 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 410 (0 - 469) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 176
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.47/46/99/29/8
   Ve: 12.6 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: pupils 4 mm L>R
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: PPP
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm,  Neurologic: Attentive, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   482 K/uL
   131 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.8 mEq/L
   25 mg/dL
   97 mEq/L
   136 mEq/L
   31.7 %
   19.5 K/uL
        [image002.jpg]
                             [**2151-3-26**]  04:49 PM
                             [**2151-3-27**]  03:10 AM
                             [**2151-3-27**]  03:23 AM
                             [**2151-3-27**]  06:18 AM
                             [**2151-3-27**]  01:13 PM
                             [**2151-3-27**]  01:32 PM
                             [**2151-3-27**]  10:16 PM
                             [**2151-3-27**]  11:14 PM
                             [**2151-3-28**]  05:30 AM
                             [**2151-3-28**]  05:34 AM
   WBC
   16.8
   19.5
   Hct
   30.6
   30.0
   31.7
   Plt
   456
   482
   Cr
   0.8
   0.9
   1.0
   1.2
   TCO2
   34
   31
   34
   35
   35
   34
   Glucose
   116
   120
   119
   131
   Other labs: PT / PTT / INR:13.9/31.0/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:48/34, Alk Phos / T Bili:93/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:91.2 %, Lymph:6.0 %,
   Mono:2.2 %, Eos:0.5 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:184 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Fluid analysis / Other labs: RSBI 76
   Microbiology: sputum [**3-26**] - no orgs on culture
   Assessment and Plan
   81 yr old hx of CAD, HTN and new NSCLC by [**3-22**] bronch, following bronch
   developed acute resp failure. intubated, EF 30% with MR, severe WMA,
   followed by cardiology. Had nonsustained VT.
   Acute respiratory failure
 remains ventilator dependent, volume
   overload may be a barrier to extubation but today, main reason is thick
   secretions. Will try to keep even to negative but will try to hold off
   on pressors. Wean sedation if possible, agree with afterload reduction
   given CHF. Fever overnight, leukocytosis and hypotension, possible VAP
   +/- sepsis. On vanc/cefepime day 6.
   NSVT
 amio, CVC now withdrawn, no further
   Hypotension
 multifactorial relating to PPV, diuresis, low EF,
   sedation +/- sepsis now with new fever
   DNR, family today decided do not reintubate.Critically ill, time 40 min
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2151-3-23**] 02:20 PM
   Arterial Line - [**2151-3-23**] 03:30 PM
   Multi Lumen - [**2151-3-23**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2151-03-29 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - RSBI of 175 in the morning, which improved to 70s with increased
   sedation
   - increase her PS on vent
   - Continues to have large secretions so will not attempt extubation
   - Family meeting:  patient remains DNR, but can re-intubated.
   - PM lytes: stable renal function
   - restarted diuresis with lasix 10 mg IV x 1 followed by 2 mg/hr gtt,
   later uptitrated to 4 mg/hr gtt, improved UOP but unable to catch up
   with ins
   - patient became slightly agitated at night, needed to have increased
   sedation + switched to AC; this caused her pressures to drop (MAP ~ 55)
   so started low dose norepinephrine with good effect
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-28**] 08:00 AM
   Cefipime - [**2151-3-28**] 05:53 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2151-3-28**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2151-3-28**] 09:50 PM
   Midazolam (Versed) - [**2151-3-29**] 03:23 AM
   Fentanyl - [**2151-3-29**] 03:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-29**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 97 (84 - 116) bpm
   BP: 90/52(65) {87/48(62) - 138/73(97)} mmHg
   RR: 21 (21 - 31) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.6 kg (admission): 74.4 kg
   Height: 63 Inch
    CVP: 18 (6 - 18)mmHg
   Total In:
                                                                  3,050 mL
                                                                    691 mL
   PO:
   TF:
                                                                    816 mL
                                                                    284 mL
   IVF:
                                                                  1,414 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,782 mL
                                                                    660 mL
   Urine:
                                                                  1,782 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,268 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 324 (324 - 485) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 35
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 26 cmH2O
   SpO2: 92%
   ABG: 7.48/48/108/32/10
   Ve: 13.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   546 K/uL
   9.4 g/dL
   138 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   96 mEq/L
   136 mEq/L
   30.4 %
   20.6 K/uL
        [image002.jpg]
                             [**2151-3-27**]  01:13 PM
                             [**2151-3-27**]  01:32 PM
                             [**2151-3-27**]  10:16 PM
                             [**2151-3-27**]  11:14 PM
                             [**2151-3-28**]  05:30 AM
                             [**2151-3-28**]  05:34 AM
                             [**2151-3-28**]  03:09 PM
                             [**2151-3-28**]  03:19 PM
                             [**2151-3-29**]  05:38 AM
                             [**2151-3-29**]  05:54 AM
   WBC
   19.5
   20.6
   Hct
   31.7
   30.4
   Plt
   482
   546
   Cr
   1.0
   1.2
   1.1
   1.1
   TCO2
   34
   35
   35
   34
   34
   37
   Glucose
   119
   131
   112
   138
   Other labs: PT / PTT / INR:14.0/30.2/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:34/26, Alk Phos / T Bili:85/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:91.2 %, Lymph:6.0 %,
   Mono:2.2 %, Eos:0.5 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:202 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
Patient made DNR/DNI.  Likely [**1-26**] baseline lung
   parenchymal abnormalities [**1-26**] malignancy worsened by pleural effusion
   (R>L).  PNA cannot be excluded but is less likely.  PE not appreciated
   on CTA.  Rad Onc, at this time, does not feel that radiation would be
   helpful in improving oxygenation. pleural effusion could be [**1-26**] acute
   heart failure; less likely to be malignant or parapneumonic in nature.
   Overnight on [**3-27**], patient had labile SBP that was bolused repeatedly.
   Pressures are an issue.
   - empiric treatment with abx (vanc/cefepime), D7/8
 consider switching
   to zosyn if continues to have fevers
   - monitor CVP
   - wean sedation in AM
   - wean levophed as tolerated
   - continue aspirin
   - continue amiodarone
   - f/u Rad Onc recs, if any
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed.
   - avoiding BB
   - on lasix gtt, consider milrinone prn
   - f/u Cards recs; ask them to provide further mgmt recs
   - goal Hct > 30
   .
   # ventricular tachycardia
 Likely triggered by recent ischemic event
   +/- hypoxia/respiratory distress.  She initially had 4 episodes over
   ~30 minutes which broke with amiodarone bolus + gtt.  Completed amio
   gtt, continue PO amio. Pulled back [**Month/Day (4) 864**] and vtach has ceased
   - continue to monitor
   - on PO amiodarone
   .
   Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI, poor
   forward flow and several new medications.
   - trend
   .
   # hypercalcemia
 Improving though still elevated (corrected for
   albumin). With appropriately low PTH this is likely from malignancy
   related tumor factors.  Dosed with pamidronate [**2151-3-26**], improving.
   - f/u parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - patient DNR, continue to dynamically assess goals of care
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   .
   #. Access - [**Last Name (LF) 864**], [**First Name3 (LF) 865**]
   #. PPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   .
   #. Code
 DNR / intubation OK
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-3-28**] 11:25 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-3-23**] 03:30 PM
   Multi Lumen - [**2151-3-23**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-03-30 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2151-3-29**] 02:27 PM
 MULTI LUMEN - STOP [**2151-3-29**] 03:29 PM
   - PICC placed, RIJ pulled
   - i/o check noted to be (goal was -1L)
   - pm lytes: repleted.
   - lasix bumped up to 8, had to go up on pressors when increased lasix.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-28**] 08:00 AM
   Cefipime - [**2151-3-29**] 05:40 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 12 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2151-3-29**] 02:10 PM
   Midazolam (Versed) - [**2151-3-29**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2151-3-29**] 04:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-30**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36
C (96.8
   HR: 82 (71 - 105) bpm
   BP: 114/53(73) {74/42(55) - 129/68(89)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.1 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,484 mL
                                                                    596 mL
   PO:
             TF:
                                                                    960 mL
                                                                    282 mL
   IVF:
                                                                    804 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    770 mL
   Urine:
                                                                  2,600 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -116 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 345 (345 - 500) mL
   PS : 14 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: ///35/
   Ve: 9.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   559 K/uL
   9.7 g/dL
   145 mg/dL
   1.3 mg/dL
   35 mEq/L
   4.4 mEq/L
   33 mg/dL
   93 mEq/L
   134 mEq/L
   30.8 %
   18.0 K/uL
        [image002.jpg]
                             [**2151-3-27**]  10:16 PM
                             [**2151-3-27**]  11:14 PM
                             [**2151-3-28**]  05:30 AM
                             [**2151-3-28**]  05:34 AM
                             [**2151-3-28**]  03:09 PM
                             [**2151-3-28**]  03:19 PM
                             [**2151-3-29**]  05:38 AM
                             [**2151-3-29**]  05:54 AM
                             [**2151-3-29**]  03:40 PM
                             [**2151-3-30**]  02:44 AM
   WBC
   19.5
   20.6
   18.0
   Hct
   31.7
   30.4
   30.8
   Plt
   482
   546
   559
   Cr
   1.2
   1.1
   1.1
   1.1
   1.3
   TCO2
   35
   35
   34
   34
   37
   Glucose
   131
   112
   138
   114
   145
   Other labs: PT / PTT / INR:13.6/30.5/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:91.2 %, Lymph:6.0 %,
   Mono:2.2 %, Eos:0.5 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
Patient made DNR/DNI.  Likely [**1-26**] baseline lung
   parenchymal abnormalities [**1-26**] malignancy worsened by pleural effusion
   (R>L).  PNA cannot be excluded but is less likely.  PE not appreciated
   on CTA.  Rad Onc, at this time, does not feel that radiation would be
   helpful in improving oxygenation. pleural effusion could be [**1-26**] acute
   heart failure; less likely to be malignant or parapneumonic in nature.
   Overnight on [**3-27**], patient had labile SBP that was bolused repeatedly.
   Pressures are an issue.
   - empiric treatment with abx (vanc/cefepime), D8, continue for 10 day
   course for treatment of post-obstructive pnemonia
   - monitor CVP
   - continue to wean sedation
   - pulmonary toilet
   - wean levophed as tolerated
   - continue aspirin
   - continue amiodarone
   - f/u Rad Onc recs, if any
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed.
   - avoiding BB
   - d/c free water flushes
   - on lasix gtt, on pressors --> consider milrinone prn
   - goal Hct > 30
   - f/up with cardiology regarding management/adding milrinone
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - on PO amiodarone
   .
   Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI, poor
   forward flow and several new medications. Resolved as of [**3-29**]
   - trend
   .
   # hypercalcemia
 Improving though still elevated (corrected for
   albumin). With appropriately low PTH this is likely from malignancy
   related tumor factors.  Dosed with pamidronate [**2151-3-26**], improving.
   - f/u parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - CVL, A-line
   #. PPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   #. Code
 Will clarify with family
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-3-29**] 12:21 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-3-23**] 03:30 PM
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-03-31 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2151-3-30**] 07:30 PM
   - UOP fall from 200 to 70 --> lasix increased from [**12-7**]
   - Cards: try betablocker to maximize diastolic filling, consider
   digoxin as inotropic support
   - Dig Loaded - 0.25 x 3 (renal failure, amiodarone); check dig level in
   AM
   - IP: placed pigtail catheter --> drained 675 cc of effusion on the
   right. [**Month (only) 11**] place one on the left
   - Had isolated episode of hypotension to 60 systolic that prompted more
   pressors.
   - F/U fluid labs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2151-3-29**] 05:40 PM
   Vancomycin - [**2151-3-30**] 08:22 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-3-30**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2151-3-31**] 12:35 AM
   Fentanyl - [**2151-3-31**] 04:10 AM
   Midazolam (Versed) - [**2151-3-31**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-31**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 77 (77 - 102) bpm
   BP: 97/48(64) {81/41(55) - 131/65(89)} mmHg
   RR: 23 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.1 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,361 mL
                                                                    635 mL
   PO:
             TF:
                                                                    960 mL
                                                                    287 mL
   IVF:
                                                                    981 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                    840 mL
   Urine:
                                                                  2,380 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
                                                                    600 mL
                                                                     75 mL
   Balance:
                                                                   -619 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (385 - 466) mL
   PS : 14 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Agitated
   PIP: 23 cmH2O
   SpO2: 99%
   ABG: 7.49/47/77.[**Numeric Identifier **]/35/10
   Ve: 9.6 L/min
   PaO2 / FiO2: 195
   Physical Examination
   Labs / Radiology
   615 K/uL
   9.5 g/dL
   135 mg/dL
   1.7 mg/dL
   35 mEq/L
   4.5 mEq/L
   42 mg/dL
   90 mEq/L
   133 mEq/L
   30.1 %
   19.1 K/uL
        [image002.jpg]
                             [**2151-3-28**]  05:30 AM
                             [**2151-3-28**]  05:34 AM
                             [**2151-3-28**]  03:09 PM
                             [**2151-3-28**]  03:19 PM
                             [**2151-3-29**]  05:38 AM
                             [**2151-3-29**]  05:54 AM
                             [**2151-3-29**]  03:40 PM
                             [**2151-3-30**]  02:44 AM
                             [**2151-3-30**]  03:50 PM
                             [**2151-3-31**]  03:51 AM
   WBC
   19.5
   20.6
   18.0
   19.1
   Hct
   31.7
   30.4
   30.8
   30.1
   Plt
   482
   546
   559
   615
   Cr
   1.2
   1.1
   1.1
   1.1
   1.3
   1.7
   TCO2
   34
   34
   37
   37
   Glucose
   131
   112
   138
   114
   145
   124
   135
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:91.2 %, Lymph:6.0 %,
   Mono:2.2 %, Eos:0.5 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
Patient made DNR/DNI.  Likely [**1-26**] baseline lung
   parenchymal abnormalities [**1-26**] malignancy worsened by pleural effusion
   (R>L).  PNA cannot be excluded but is less likely.  PE not appreciated
   on CTA.  Rad Onc, at this time, does not feel that radiation would be
   helpful in improving oxygenation. pleural effusion could be [**1-26**] acute
   heart failure; less likely to be malignant or parapneumonic in
   nature.   S/P IP tap and pigtail placement on the right.
   - empiric treatment with abx (vanc/cefepime), D9, continue for 10 day
   course for treatment of post-obstructive pnemonia (likely will be
   longer)
   - f/u on repeat CT of chest to eval for interval changes
   - f/u on pleural fluid lytes, monitor pigtail output.
   - monitor CVP, continue to wean sedation
   - pulmonary toilet
   - continue aspirin
   - f/u Rad Onc recs, if any
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed.
   - added on BB as per cardiology recommendations.
   - holding off digoxin
   - repeating echo, eval for EF, intracardiac shunt etc.
   - on lasix gtt, on pressors --> consider milrinone prn
   - goal Hct > 30
   - f/up with cardiology regarding management
   - I/O keep even for now
   - consider SWAN for better assessment of hemodynamics.
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - on PO amiodarone
   .
   # Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   - trend and resolved
   .
   # hypercalcemia
 Improving though still elevated (corrected for
   albumin). With appropriately low PTH this is likely from malignancy
   related tumor factors.  Dosed with pamidronate [**2151-3-26**], improving.
   - f/u parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - CVL, A-line
   #. PPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   #. Code
 Will clarify with family
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTSNon-small cell lung CA
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-3-30**] 01:18 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-3-23**] 03:30 PM
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-04-01 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2151-3-31**] 09:24 PM
   - pleural effusion exudative by LDH criteria
   - FeUrea 13% on urine lytes
   - goal I+O: even
   - CT chest: significantly reduced size of pleural effusion; mild pulm
   edema unchanged from prior CT
   - echo: EF 45%, 1+ MR, improved from prior; consistent with multivessel
   CAD
   - plan per IP is to pull pigtail catheter tmrw
   - switched her cefepime to meropenem [**1-26**] concern for postobstructive
   PNA (better anaerobic coverage)
   - lowered lasix gtt as Cr continued to bump this PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-31**] 09:02 AM
   Cefipime - [**2151-3-31**] 06:02 PM
   Meropenem - [**2151-3-31**] 08:55 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Furosemide (Lasix) - 8 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-3-31**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2151-4-1**] 12:22 AM
   Midazolam (Versed) - [**2151-4-1**] 03:15 AM
   Fentanyl - [**2151-4-1**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 81 (77 - 98) bpm
   BP: 70/45(55) {68/45(55) - 124/67(79)} mmHg
   RR: 21 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.1 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,946 mL
                                                                    558 mL
   PO:
             TF:
                                                                    960 mL
                                                                    282 mL
   IVF:
                                                                  1,396 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    460 mL
   Urine:
                                                                  1,920 mL
                                                                    440 mL
   NG:
   20 mL
   Stool:
   Drains:
                                                                    115 mL
   Balance:
                                                                    911 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (358 - 452) mL
   PS : 14 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 90
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 8.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   555 K/uL
   8.8 g/dL
   145 mg/dL
   2.1 mg/dL
   33 mEq/L
   4.6 mEq/L
   54 mg/dL
   88 mEq/L
   131 mEq/L
   28.6 %
   16.5 K/uL
        [image002.jpg]
                             [**2151-3-28**]  03:19 PM
                             [**2151-3-29**]  05:38 AM
                             [**2151-3-29**]  05:54 AM
                             [**2151-3-29**]  03:40 PM
                             [**2151-3-30**]  02:44 AM
                             [**2151-3-30**]  03:50 PM
                             [**2151-3-31**]  03:51 AM
                             [**2151-3-31**]  04:28 PM
                             [**2151-3-31**]  07:20 PM
                             [**2151-4-1**]  05:48 AM
   WBC
   20.6
   18.0
   19.1
   16.5
   Hct
   30.4
   30.8
   30.1
   28.6
   Plt
   546
   559
   615
   555
   Cr
   1.1
   1.1
   1.3
   1.7
   1.8
   1.9
   2.1
   TCO2
   34
   37
   37
   Glucose
   138
   114
   145
   124
   135
   421
   149
   145
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:91.2 %, Lymph:6.0 %,
   Mono:2.2 %, Eos:0.5 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:7.9 mg/dL, Mg++:2.9 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
Patient made DNR/DNI.  Likely [**1-26**] baseline lung
   parenchymal abnormalities [**1-26**] malignancy worsened by pleural effusion
   (R>L).  Given WBC, post-obstructive PNA cannot be excluded but is less
   likely to cause resp failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. PLeural effusion is exudative; likely to be malignant or
   parapneumonic in nature.   S/P IP tap and pigtail placement on the
   right. CT chest shows resolving effusion. Repeat TTE on [**3-31**] shows
   improving EF and MR, and mixed venous sat is 78%, none of which is c/w
   a cardiogenic cause
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D10 of ABX, D2 of [**Last Name (un) **] (will need ID
   approval)
   -  monitor pigtail output.
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, check RISB
   - continue aspirin
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE
   - continue BB as per cardiology recommendations.
   - holding off digoxin
   - goal Hct > 30
   - f/up with cardiology regarding management
   - I/O keep even for now
   - Balance lasix rate with creatinine
   - check pm lytes
   - consider SWAN for better assessment of hemodynamics.
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/c amiodarone given no further events since adjusting central line
   .
   # Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   - trend and resolved
   .
   # hypercalcemia
 Improving though still elevated (corrected for
   albumin). With appropriately low PTH this is likely from malignancy
   related tumor factors.  Dosed with pamidronate [**2151-3-26**], improving.
   - f/u parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - CVL, A-line
   #. pPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   #. Code
 Will clarify with family
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-3-31**] 01:56 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-3-23**] 03:30 PM
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: PPI
   VAP:  On Vanc/[**Last Name (un) 1540**]
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending clinical improvement

2151-04-02 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2151-4-1**] 09:45 AM
 ARTERIAL LINE - START [**2151-4-1**] 01:56 PM
 ARTERIAL LINE - STOP [**2151-4-1**] 05:00 PM
   - extubate tomorrow.
   - stopped free h20 flushes
   - 10th day of abx, day 2 of meropenem
   - got an A-line: pulled off later in the afternoon.
   - 3pm lytes: stable
   - 500cc bolus, increase pressors for hypotension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-31**] 09:02 AM
   Cefipime - [**2151-3-31**] 06:02 PM
   Meropenem - [**2151-4-2**] 12:39 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-4-1**] 08:01 AM
   Fentanyl - [**2151-4-1**] 01:23 PM
   Midazolam (Versed) - [**2151-4-1**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2151-4-2**] 12:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-2**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 88 (72 - 98) bpm
   BP: 115/48(64) {83/42(52) - 137/61(78)} mmHg
   RR: 24 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.1 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,055 mL
                                                                  1,280 mL
   PO:
             TF:
                                                                    960 mL
                                                                    284 mL
   IVF:
                                                                    854 mL
                                                                    996 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    470 mL
   Urine:
                                                                  1,905 mL
                                                                    470 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                     55 mL
                                                                    810 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 101
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.46/53/84.[**Numeric Identifier 1132**]/31/11
   Ve: 10 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   680 K/uL
   8.8 g/dL
   164 mg/dL
   2.2 mg/dL
   31 mEq/L
   4.3 mEq/L
   57 mg/dL
   87 mEq/L
   129 mEq/L
   27.5 %
   22.6 K/uL
        [image002.jpg]
                             [**2151-3-30**]  02:44 AM
                             [**2151-3-30**]  03:50 PM
                             [**2151-3-31**]  03:51 AM
                             [**2151-3-31**]  04:28 PM
                             [**2151-3-31**]  07:20 PM
                             [**2151-4-1**]  05:48 AM
                             [**2151-4-1**]  03:09 PM
                             [**2151-4-1**]  03:22 PM
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
   WBC
   18.0
   19.1
   16.5
   22.6
   Hct
   30.8
   30.1
   28.6
   27.5
   Plt
   [**Telephone/Fax (3) 11826**]80
   Cr
   1.3
   1.7
   1.8
   1.9
   2.1
   2.2
   2.2
   TCO2
   37
   37
   39
   Glucose
   145
   124
   135
   421
   149
   145
   153
   164
   Other labs: PT / PTT / INR:13.9/30.4/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
Patient made DNR/DNI.  Likely [**1-26**] baseline lung
   parenchymal abnormalities [**1-26**] malignancy worsened by pleural effusion
   (R>L).  Given WBC, post-obstructive PNA cannot be excluded but is less
   likely to cause resp failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. PLeural effusion is exudative; likely to be malignant or
   parapneumonic in nature.   S/P IP tap and pigtail placement on the
   right. CT chest shows resolving effusion. Repeat TTE on [**3-31**] shows
   improving EF and MR, and mixed venous sat is 78%, none of which is c/w
   a cardiogenic cause
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D11 of ABX, D3 of [**Last Name (un) **] (will need ID
   approval)
   - tx agitation with antipsychotics
   -  monitor pigtail output.
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, check RISB
   - continue aspirin
   .
   # Hypotension: Patient with MAPs around 60 while on pressors
   - Avoid fluid boluses, difficult to remove volume given acute renal
   failure [**1-26**] ATN
   - Avoid increasing pressors
   - avoid bolusing with sedation due to vasoactive effects, recommend
   haldol for agitation and taper off midazolam
   .
   # Acute renal failure
 contrast induced
   -maintain lasix
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE
   - continue BB as per cardiology recommendations.
   - holding off digoxin
   - goal Hct > 30
   - f/up with cardiology regarding management
   - I/O keep even for now
   - Balance lasix rate with creatinine
   - check pm lytes
   - consider SWAN for better assessment of hemodynamics.
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/c amiodarone given no further events since adjusting central line
   .
   # Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   - trend and resolved
   .
   # hypercalcemia
 Improving though still elevated (corrected for
   albumin). With appropriately low PTH this is likely from malignancy
   related tumor factors.  Dosed with pamidronate [**2151-3-26**], improving.
   - f/u parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - CVL
   #. pPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   #. Code
 Family meeting today to clarify
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-1**] 02:51 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   18 Gauge - [**2151-4-2**] 02:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-04-03 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-4-2**] 07:33 PM
 URINE CULTURE - At [**2151-4-2**] 07:33 PM
 SPUTUM CULTURE - At [**2151-4-2**] 09:49 PM
 FEVER - 102.1
F - [**2151-4-2**] 08:00 PM
   - Family meeting --> family to meet and get back to us
   - started Haldol for agitation; the goal is to get her off of midaz but
   this is difficult because of her agitation -
   - IP pulled drain
   - Put back on AC for tachypnea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-3-31**] 09:02 AM
   Cefipime - [**2151-3-31**] 06:02 PM
   Meropenem - [**2151-4-2**] 11:09 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2151-4-2**] 04:21 PM
   Midazolam (Versed) - [**2151-4-2**] 04:26 PM
   Heparin Sodium (Prophylaxis) - [**2151-4-2**] 11:08 PM
   Haloperidol (Haldol) - [**2151-4-3**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-3**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.3
C (100.9
   HR: 110 (76 - 111) bpm
   BP: 125/52(68) {66/31(41) - 140/56(75)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.1 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,925 mL
                                                                    603 mL
   PO:
             TF:
                                                                    965 mL
                                                                    289 mL
   IVF:
                                                                  1,960 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    680 mL
   Urine:
                                                                  2,585 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 359 (350 - 421) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 10.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   737 K/uL
   9.0 g/dL
   170 mg/dL
   2.2 mg/dL
   35 mEq/L
   4.1 mEq/L
   61 mg/dL
   88 mEq/L
   133 mEq/L
   28.6 %
   17.4 K/uL
        [image002.jpg]
                             [**2151-3-30**]  03:50 PM
                             [**2151-3-31**]  03:51 AM
                             [**2151-3-31**]  04:28 PM
                             [**2151-3-31**]  07:20 PM
                             [**2151-4-1**]  05:48 AM
                             [**2151-4-1**]  03:09 PM
                             [**2151-4-1**]  03:22 PM
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
                             [**2151-4-3**]  03:38 AM
   WBC
   19.1
   16.5
   22.6
   17.4
   Hct
   30.1
   28.6
   27.5
   28.6
   Plt
   [**Telephone/Fax (3) 11845**]37
   Cr
   1.7
   1.8
   1.9
   2.1
   2.2
   2.2
   2.2
   TCO2
   37
   37
   39
   Glucose
   124
   135
   421
   149
   145
   153
   164
   170
   Other labs: PT / PTT / INR:13.9/30.4/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely [**1-26**] baseline lung parenchymal
   abnormalities [**1-26**] malignancy worsened by pleural effusion (R>L).  Given
   WBC, post-obstructive PNA cannot be excluded but is less likely to
   cause respiratory failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. Pleural effusion is exudative but cytology negative for
   malignancy.   S/P IP tap and pigtail placement on the right. CT chest
   shows resolving effusion. Repeat TTE on [**3-31**] shows improving EF and MR,
   and mixed venous sat is 78%, which is less consistent with a
   cardiogenic cause.
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D12 of ABX, D4 of [**Last Name (un) **] (will need ID
   approval)
   - tx agitation with antipsychotics
   - monitor pigtail output.
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, check RSBI
   - continue aspirin
   .
   # Hypotension: Patient with MAPs around 60 while on pressors
   - Avoid fluid boluses, difficult to remove volume given acute renal
   failure [**1-26**] ATN
   - Avoid increasing pressors
   - avoid bolusing with sedation due to vasoactive effects, recommend
   haldol for agitation and taper off midazolam
   .
   # Acute renal failure
 Unclear etiology.  Thought to be
   contrast-induced +/- pre-renal etiology.  Good urine output.
   Creatinine stable this AM.
   - goal is to keep patient near even to avoid causing pulmonary edema
   and thereby worsening respiratory failure
   - PM lytes/creatinine
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE
   - continue BB as per cardiology recommendations.
   - goal Hct > 30
   - f/u cardiology recs (if any)
   - I/O keep even for now
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/c amiodarone given no further events since adjusting central line
   .
   # Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   - trend and resolved
   .
   # hypercalcemia
 Resolved.  With appropriately low PTH this is likely
   from malignancy related tumor factors.  Dosed with pamidronate [**2151-3-26**],
   improving.
   - PTHrP WNL
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - PICC
   #. PPx
 HSQ, PPI, colace/senna, fent/midaz for pain
   #. Code
 DNR/DNI
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-3**] 05:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-04-03 11:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventillated.
   Tolerating IPS mode.
   Denies dyspnea, chest pain, abd pain.
   Pig-tail right pleural catheter d/c'd this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2151-3-31**] 06:02 PM
   Meropenem - [**2151-4-2**] 11:09 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2151-4-2**] 04:26 PM
   Haloperidol (Haldol) - [**2151-4-3**] 04:09 AM
   Fentanyl - [**2151-4-3**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2151-4-3**] 07:51 AM
   Pantoprazole (Protonix) - [**2151-4-3**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-4-3**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.4
C (99.3
   HR: 106 (82 - 113) bpm
   BP: 119/46(64) {87/31(51) - 140/60(77)} mmHg
   RR: 21 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.1 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,925 mL
                                                                    952 mL
   PO:
             TF:
                                                                    965 mL
                                                                    455 mL
   IVF:
                                                                  1,960 mL
                                                                    498 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    915 mL
   Urine:
                                                                  2,585 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 457 (359 - 457) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: ///35/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   737 K/uL
   170 mg/dL
   2.2 mg/dL
   35 mEq/L
   4.1 mEq/L
   61 mg/dL
   88 mEq/L
   133 mEq/L
   28.6 %
   17.4 K/uL
        [image002.jpg]
                             [**2151-3-30**]  03:50 PM
                             [**2151-3-31**]  03:51 AM
                             [**2151-3-31**]  04:28 PM
                             [**2151-3-31**]  07:20 PM
                             [**2151-4-1**]  05:48 AM
                             [**2151-4-1**]  03:09 PM
                             [**2151-4-1**]  03:22 PM
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
                             [**2151-4-3**]  03:38 AM
   WBC
   19.1
   16.5
   22.6
   17.4
   Hct
   30.1
   28.6
   27.5
   28.6
   Plt
   [**Telephone/Fax (3) 11845**]37
   Cr
   1.7
   1.8
   1.9
   2.1
   2.2
   2.2
   2.2
   TCO2
   37
   37
   39
   Glucose
   124
   135
   421
   149
   145
   153
   164
   170
   Other labs: PT / PTT / INR:13.9/30.4/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   RESPIRATORY FAILURE -- multifactorial, including RLL lung cancer, right
   pleural effusion, right pneumonia,atalectasis, underlying pulmonary
   edema from recent MI and depressed LV ejection fraction.
   # respiratory failure
Patient made DNR/DNI.  Likely [**1-26**] baseline lung
   parenchymal abnormalities [**1-26**] malignancy worsened by pleural effusion
   (R>L).  Given WBC, post-obstructive PNA cannot be excluded but is less
   likely to cause resp failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. PLeural effusion is exudative; likely to be malignant or
   parapneumonic in nature.   S/P IP tap and pigtail placement on the
   right. CT chest shows resolving effusion. Repeat TTE on [**3-31**] shows
   improving EF and MR, and mixed venous sat is 78%, none of which is c/w
   a cardiogenic cause
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D11 of ABX, D3 of [**Last Name (un) **] (will need ID
   approval)
   - tx agitation with antipsychotics
   -  monitor pigtail output.
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, check RISB
   - continue aspirin
   HYPOTENSION -- resolved.
   NUTRITIONAL SUPPORT -- TF
   # Hypotension: Patient with MAPs around 60 while on pressors
   - Avoid fluid boluses, difficult to remove volume given acute renal
   failure [**1-26**] ATN
   - Avoid increasing pressors
   - avoid bolusing with sedation due to vasoactive effects, recommend
   haldol for agitation and taper off midazolam
   .
   # Acute renal failure
 contrast induced
   -maintain lasix
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE
   - continue BB as per cardiology recommendations.
   - holding off digoxin
   - goal Hct > 30
   - f/up with cardiology regarding management
   - I/O keep even for now
   - Balance lasix rate with creatinine
   - check pm lytes
   - consider SWAN for better assessment of hemodynamics.
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/c amiodarone given no further events since adjusting central line
   .
   # Transaminitis
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   - trend and resolved
   .
   # hypercalcemia
 Improving though still elevated (corrected for
   albumin). With appropriately low PTH this is likely from malignancy
   related tumor factors.  Dosed with pamidronate [**2151-3-26**], improving.
   - f/u parathyroid related peptide
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**] and stable [**3-26**]
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - CVL
   #. pPx -
   -DVT ppx with SC heparin
   -stress ulcer ppx with PPI
   -Bowel regimen colace/senna
   -Pain management with fent/midaz
   #. Code
 Family meeting today to clarify
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-3**] 05:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2151-04-04 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2151-4-3**] 08:46 PM
   - Family meeting tomorrow at 2:30 PM to discuss code status, goals of
   care
   - RSBI 102, tachypneic to 30s on PSV, had to be put back on AC
   - still agitated this PM, bolused versed when haldol proved
   insufficient
   - tachycardic to 120s, EKG suggested sinus with frequent ectopic beats
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2151-4-3**] 11:26 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-4-3**] 07:52 AM
   Midazolam (Versed) - [**2151-4-3**] 10:17 PM
   Heparin Sodium (Prophylaxis) - [**2151-4-3**] 11:26 PM
   Haloperidol (Haldol) - [**2151-4-4**] 02:30 AM
   Fentanyl - [**2151-4-4**] 03:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-4**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 109 (100 - 121) bpm
   BP: 118/53(70) {90/39(56) - 133/67(82)} mmHg
   RR: 22 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.5 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,088 mL
                                                                    519 mL
   PO:
             TF:
                                                                    960 mL
                                                                    309 mL
   IVF:
                                                                  1,128 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    315 mL
   Urine:
                                                                  1,835 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    253 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 433 (433 - 457) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/50/118/33/13
   Ve: 11.7 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   778 K/uL
   8.3 g/dL
   310 mg/dL
   2.0 mg/dL
   33 mEq/L
   4.4 mEq/L
   65 mg/dL
   88 mEq/L
   133 mEq/L
   25.9 %
   18.9 K/uL
        [image002.jpg]
                             [**2151-3-31**]  07:20 PM
                             [**2151-4-1**]  05:48 AM
                             [**2151-4-1**]  03:09 PM
                             [**2151-4-1**]  03:22 PM
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
                             [**2151-4-3**]  03:38 AM
                             [**2151-4-3**]  06:58 PM
                             [**2151-4-3**]  08:44 PM
                             [**2151-4-4**]  04:29 AM
   WBC
   16.5
   22.6
   17.4
   18.9
   Hct
   28.6
   27.5
   28.6
   25.9
   Plt
   [**Telephone/Fax (3) 11860**]78
   Cr
   1.9
   2.1
   2.2
   2.2
   2.2
   2.1
   2.0
   TCO2
   37
   39
   39
   Glucose
   149
   145
   153
   164
   170
   310
   Other labs: PT / PTT / INR:13.9/30.4/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely [**1-26**] baseline lung parenchymal
   abnormalities [**1-26**] malignancy worsened by pleural effusion (R>L).  Given
   WBC, post-obstructive PNA cannot be excluded but is less likely to
   cause respiratory failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. Pleural effusion is exudative but cytology negative for
   malignancy.   S/P IP tap and pigtail placement on the right (D/C
   [**4-2**]). CT chest shows resolving effusion. Repeat TTE on [**3-31**] shows
   improving EF and MR, and mixed venous sat is 78%, which is less
   consistent with a cardiogenic cause.
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D13 of ABX, D5 of [**Last Name (un) **]
   - tx agitation with antipsychotics
   - repeat CXR s/p pigtail removal
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, PSV as tolerated
   - continue aspirin
   .
   # Hypotension: Patient with MAPs around 60 while on pressors
   - Avoid fluid boluses, difficult to remove volume given acute renal
   failure [**1-26**] ATN
   - Wean pressors as able
   - Recommend haldol/zyprexa for agitation and taper off midazolam
   .
   # Acute renal failure
 Unclear etiology.  Thought to be
   contrast-induced +/- pre-renal etiology.  Good urine output.
   Creatinine shows mild improvement this AM.
   - goal is to keep patient near even to avoid causing pulmonary edema
   and thereby worsening respiratory failure
   - PM lytes/creatinine
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE
   - continue BB as per cardiology recommendations.
   - goal Hct > 30
   - f/u cardiology recs (if any)
   - I/O keep even for now
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/ced amiodarone given no further events since adjusting central line
   .
   # hypercalcemia
 Resolved.  With appropriately low PTH this is likely
   from malignancy related tumor factors.  Dosed with pamidronate [**2151-3-26**],
   improving.
   - PTHrP WNL
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**].  Stable since that time.
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - PICC
   #. PPx
 HSQ, PPI, colace/senna, fent/midaz for pain
   #. Code
 DNR/DNI
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-4**] 03:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-04-04 10:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Somewhat more awake, now receiving lower doses sedatives.
   Remains on vasopressor, but tolerating gradual reduction in dose.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2151-4-3**] 11:26 PM
   Vancomycin - [**2151-4-4**] 07:59 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-4-3**] 10:17 PM
   Haloperidol (Haldol) - [**2151-4-4**] 02:30 AM
   Pantoprazole (Protonix) - [**2151-4-4**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2151-4-4**] 07:59 AM
   Fentanyl - [**2151-4-4**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechahnically ventilated
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-4-4**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 109 (100 - 121) bpm
   BP: 102/51(65) {90/39(56) - 133/67(82)} mmHg
   RR: 23 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.5 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,088 mL
                                                                    860 mL
   PO:
             TF:
                                                                    960 mL
                                                                    392 mL
   IVF:
                                                                  1,128 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    400 mL
   Urine:
                                                                  1,835 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    253 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 469 (433 - 469) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/50/118/33/13
   Ve: 11.9 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   778 K/uL
   310 mg/dL
   2.0 mg/dL
   33 mEq/L
   4.4 mEq/L
   65 mg/dL
   88 mEq/L
   133 mEq/L
   25.9 %
   18.9 K/uL
        [image002.jpg]
                             [**2151-3-31**]  07:20 PM
                             [**2151-4-1**]  05:48 AM
                             [**2151-4-1**]  03:09 PM
                             [**2151-4-1**]  03:22 PM
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
                             [**2151-4-3**]  03:38 AM
                             [**2151-4-3**]  06:58 PM
                             [**2151-4-3**]  08:44 PM
                             [**2151-4-4**]  04:29 AM
   WBC
   16.5
   22.6
   17.4
   18.9
   Hct
   28.6
   27.5
   28.6
   25.9
   Plt
   [**Telephone/Fax (3) 11860**]78
   Cr
   1.9
   2.1
   2.2
   2.2
   2.2
   2.1
   2.0
   TCO2
   37
   39
   39
   Glucose
   149
   145
   153
   164
   170
   310
   Other labs: PT / PTT / INR:13.9/30.4/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   81 yof CAD, HTN, new dx of NSCLC c/b respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including RLL lung cancer, right
   pleural effusion, right pneumonia, atalectasis, underlying pulmonary
   edema from recent MI and depressed LV ejection fraction.  Plan continue
   mechanical ventilation.  Trials of IPS mode, hopefully work towards
   SBT, and eventually extubation trial if possible.  However, limited
   progress to date.  Monitor
   RIGHT PLEURAL EFFUSSION
 s/p thoracentesis and pigtail placement on
   the right --> now D/C'd.  Monitor for re-accumulation.
   PNEUMONIA
 related to lung CA.  Continue empiric treatment with abx
   (vancomycin/meropenem)
   AGGITATION -- Rx agitation with antipsychotics.
   HYPOTENSION -- improving, but slowly.  Monitor BP, maintain MAP >60
   mmHg.  Vasopressor as needed.
   NUTRITIONAL SUPPORT -- TF.
   ACUTE RENAL FAILURE -- contrast induced.  Maintain lasix drip. Monitor
   UO, BuN, Creatinine.  Gradual improvemennt.
   CHF -- new anterior wall motion abnormalities consistent with a new
   infarct in the territory of the LAD.  Cardiac enzymes show flat CKs and
   downtrending troponins, indicating that the acute episode has passed.
   LV EF has improved to 45% on repeat TTE.  Continue b-blocker as per
   Cardiology recommendations.
   VENTRICULAR TACHYCARDIA -- Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  Resolved.  Continue
   PO amio. Pulled back CVL.
   LFT abnormalities
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   ANEMIA -- received 2U PRBC on [**2151-3-25**].  Stable. Continue to trend Hct.
   LUNG CA
 No plans for intervention while in MICU.  Chemotherapy to be
   considered if patient able to tolerate extubation.  Outpatient f/u with
   Oncology.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-4**] 03:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Family meeting today, including HCP.  Updated medical condition,
   answered all questions.  Discussed poor progress on mechanical
   ventilator over past 13 days.  Underlying RLL malignancy without
   treatment options at this time.  Considering possibility of trach/PEG
   if no further progress.  HCP and [**Name2 (NI) 11864**] members express unnanimous
   decision that patient would NOT want trach and chronic mechanical
   ventilation.  Desire to assess over next few days, optimize medical
   condition in preparation of extubation trial (with no plans for
   reintubation).  Also, all agree on DNR in the event that patient
   experiences cardiac or further respiratory arrest.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2151-4-4**] 15:48 ------

2151-04-05 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - I/O - 600 positive.
   - family meeting: DNR/DNI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-4-4**] 07:59 AM
   Meropenem - [**2151-4-4**] 11:53 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-4-4**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2151-4-4**] 11:52 PM
   Fentanyl - [**2151-4-5**] 02:45 AM
   Haloperidol (Haldol) - [**2151-4-5**] 05:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-5**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 110 (109 - 121) bpm
   BP: 89/42(54) {89/42(54) - 130/79(86)} mmHg
   RR: 20 (20 - 29) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.5 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  1,918 mL
                                                                    388 mL
   PO:
             TF:
                                                                    961 mL
                                                                    301 mL
   IVF:
                                                                    897 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    300 mL
   Urine:
                                                                  1,115 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    803 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 453 (423 - 469) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 97%
   ABG: ///36/
   Ve: 12.5 L/min
   Physical Examination
   GEN: intubated, responds appropriately to questions, moves all limbs
   purposefully
   CV: tachycardic, reg rhythm
   RESP: rhonchorous on anterior exam
   ABD: S, NT/ND
   EXT: clubbing, no edema
   Labs / Radiology
   789 K/uL
   7.6 g/dL
   154 mg/dL
   2.0 mg/dL
   36 mEq/L
   4.4 mEq/L
   78 mg/dL
   93 mEq/L
   140 mEq/L
   24.7 %
   21.4 K/uL
        [image002.jpg]
                             [**2151-4-1**]  03:09 PM
                             [**2151-4-1**]  03:22 PM
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
                             [**2151-4-3**]  03:38 AM
                             [**2151-4-3**]  06:58 PM
                             [**2151-4-3**]  08:44 PM
                             [**2151-4-4**]  04:29 AM
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
   WBC
   22.6
   17.4
   18.9
   21.4
   Hct
   27.5
   28.6
   25.9
   24.7
   Plt
   680
   737
   778
   789
   Cr
   2.2
   2.2
   2.2
   2.1
   2.0
   2.1
   2.0
   TCO2
   37
   39
   39
   Glucose
   153
   164
   170
   [**Telephone/Fax (3) 11869**]
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely [**1-26**] baseline lung parenchymal
   abnormalities [**1-26**] malignancy worsened by pleural effusion (R>L).  Given
   WBC, post-obstructive PNA cannot be excluded but is less likely to
   cause respiratory failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. Pleural effusion is exudative but cytology negative for
   malignancy.   S/P IP tap and pigtail placement on the right (D/C
   [**4-2**]). CT chest shows resolving effusion. Repeat TTE on [**3-31**] shows
   improving EF and MR, and mixed venous sat is 78%, which is less
   consistent with a cardiogenic cause.
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D14 of ABX, D6 of [**Last Name (un) **]
   - tx agitation with antipsychotics
   - repeat CXR s/p pigtail removal
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, PSV as tolerated
   - continue aspirin
   .
   # Hypotension: Patient with MAPs around 60 while on pressors
   - Avoid fluid boluses, difficult to remove volume given acute renal
   failure [**1-26**] ATN
   - Wean pressors as able
   - Recommend haldol/zyprexa for agitation and taper off midazolam
   .
   # Acute renal failure
 Unclear etiology.  Thought to be
   contrast-induced +/- pre-renal etiology.  Good urine output.
   Creatinine shows mild improvement this AM.
   - goal is to keep patient near even to avoid causing pulmonary edema
   and thereby worsening respiratory failure
   - PM lytes/creatinine
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE
   - continue BB as per cardiology recommendations.
   - goal Hct > 30
   - f/u cardiology recs (if any)
   - I/O keep even for now
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/ced amiodarone given no further events since adjusting central line
   .
   # hypercalcemia
 Resolved.  With appropriately low PTH this is likely
   from malignancy related tumor factors.  Dosed with pamidronate [**2151-3-26**],
   improving.
   - PTHrP WNL
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**].  Stable since that time.
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - PICC
   #. PPx
 HSQ, PPI, colace/senna, fent/midaz for pain
   #. Code
 DNR/DNI
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-5**] 04:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-04-05 12:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating IPS mode.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-4-4**] 07:59 AM
   Meropenem - [**2151-4-4**] 11:53 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2151-4-5**] 02:45 AM
   Haloperidol (Haldol) - [**2151-4-5**] 05:14 AM
   Heparin Sodium (Prophylaxis) - [**2151-4-5**] 07:43 AM
   Pantoprazole (Protonix) - [**2151-4-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-4-5**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 113 (109 - 121) bpm
   BP: 92/43(55) {89/42(54) - 130/79(86)} mmHg
   RR: 29 (20 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.5 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  1,918 mL
                                                                    683 mL
   PO:
             TF:
                                                                    961 mL
                                                                    476 mL
   IVF:
                                                                    897 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    450 mL
   Urine:
                                                                  1,115 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    803 mL
                                                                    233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 435 (423 - 453) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 13.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   789 K/uL
   154 mg/dL
   2.0 mg/dL
   36 mEq/L
   4.4 mEq/L
   78 mg/dL
   93 mEq/L
   140 mEq/L
   24.7 %
   21.4 K/uL
        [image002.jpg]
                             [**2151-4-1**]  03:09 PM
                             [**2151-4-1**]  03:22 PM
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
                             [**2151-4-3**]  03:38 AM
                             [**2151-4-3**]  06:58 PM
                             [**2151-4-3**]  08:44 PM
                             [**2151-4-4**]  04:29 AM
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
   WBC
   22.6
   17.4
   18.9
   21.4
   Hct
   27.5
   28.6
   25.9
   24.7
   Plt
   680
   737
   778
   789
   Cr
   2.2
   2.2
   2.2
   2.1
   2.0
   2.1
   2.0
   TCO2
   37
   39
   39
   Glucose
   153
   164
   170
   [**Telephone/Fax (3) 11869**]
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   81 yof CAD, HTN, new dx of NSCLC c/b respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including RLL lung cancer, right
   pleural effusion, right pneumonia, atalectasis, underlying pulmonary
   edema from recent MI and depressed LV ejection fraction.  Plan continue
   mechanical ventilation.  Tolerating IPS mode this AM, hopefully work
   towards SBT, and eventually extubation trial if possible.  However,
   limited progress to date.  Monitor.
   RIGHT PLEURAL EFFUSSION
 s/p thoracentesis and pigtail placement on
   the right --> now D/C'd.  Monitor for re-accumulation.
   PNEUMONIA
 related to lung CA.  Continue empiric treatment with abx
   (vancomycin/meropenem)
   AGGITATION -- Rx agitation with antipsychotics.
   HYPOTENSION -- improving, but slowly.  Monitor BP, maintain MAP >60
   mmHg.  Vasopressor as needed.
   NUTRITIONAL SUPPORT -- TF at goal.
   ACUTE RENAL FAILURE -- contrast induced.  Maintain lasix drip. Monitor
   UO, BuN, Creatinine.  Gradual improvemennt.
   CHF -- new anterior wall motion abnormalities consistent with a new
   infarct in the territory of the LAD.  Cardiac enzymes show flat CKs and
   downtrending troponins, indicating that the acute episode has passed.
   LV EF has improved to 45% on repeat TTE.  Continue b-blocker as per
   Cardiology recommendations.
   VENTRICULAR TACHYCARDIA -- Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  Resolved.  Continue
   PO amio. Pulled back CVL.
   LFT abnormalities
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   ANEMIA -- received 2U PRBC on [**2151-3-25**].  Stable. Continue to trend Hct.
   LUNG CA
 No plans for intervention while in MICU.  Chemotherapy to be
   considered if patient able to tolerate extubation.  Outpatient f/u with
   Oncology.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-5**] 04:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:  Updated medical condition & progress with
   Health Care Proxy.
   [**Name (NI) 129**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2151-04-06 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-4-6**] 12:20 AM
 URINE CULTURE - At [**2151-4-6**] 12:20 AM
 BLOOD CULTURED - At [**2151-4-6**] 05:07 AM
   - 277 positive at 1700
   - PM labs ok
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-4-4**] 07:59 AM
   Meropenem - [**2151-4-6**] 12:40 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2151-4-6**] 04:41 AM
   Haloperidol (Haldol) - [**2151-4-6**] 04:42 AM
   Pantoprazole (Protonix) - [**2151-4-6**] 07:32 AM
   Heparin Sodium (Prophylaxis) - [**2151-4-6**] 07:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-6**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 116 (111 - 118) bpm
   BP: 119/56(72) {92/36(55) - 146/64(81)} mmHg
   RR: 26 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.5 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  1,306 mL
                                                                    510 mL
   PO:
             TF:
                                                                    960 mL
                                                                    311 mL
   IVF:
                                                                    286 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    340 mL
   Urine:
                                                                  1,220 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     86 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (367 - 674) mL
   PS : 14 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 11.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   819 K/uL
   7.2 g/dL
   159 mg/dL
   2.4 mg/dL
   36 mEq/L
   4.4 mEq/L
   102 mg/dL
   101 mEq/L
   147 mEq/L
   23.3 %
   22.7 K/uL
        [image002.jpg]
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
                             [**2151-4-3**]  03:38 AM
                             [**2151-4-3**]  06:58 PM
                             [**2151-4-3**]  08:44 PM
                             [**2151-4-4**]  04:29 AM
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
                             [**2151-4-5**]  02:14 PM
                             [**2151-4-6**]  04:15 AM
   WBC
   22.6
   17.4
   18.9
   21.4
   22.7
   Hct
   27.5
   28.6
   25.9
   24.7
   23.3
   Plt
   680
   737
   778
   789
   819
   Cr
   2.2
   2.2
   2.1
   2.0
   2.1
   2.0
   2.1
   2.4
   TCO2
   39
   39
   Glucose
   164
   170
   310
   163
   154
   200
   159
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely [**1-26**] baseline lung parenchymal
   abnormalities [**1-26**] malignancy worsened by pleural effusion (R>L).  Given
   WBC, post-obstructive PNA cannot be excluded but is less likely to
   cause respiratory failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. Pleural effusion is exudative but cytology negative for
   malignancy.   S/P IP tap and pigtail placement on the right (D/C
   [**4-2**]). CT chest shows resolving effusion. Repeat TTE on [**3-31**] shows
   improving EF and MR, and mixed venous sat is 78%, which is less
   consistent with a cardiogenic cause.
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D15 of ABX, D7 of [**Last Name (un) **]
   - tx agitation with antipsychotics
   - repeat CXR s/p pigtail removal
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, PSV as tolerated
   - continue aspirin
   - pending family meeting for goals of care (preped for extubation)
   .
   # Hypotension: Patient with MAPs around 60 while on pressors
   - Avoid fluid boluses, difficult to remove volume given acute renal
   failure [**1-26**] ATN
   - Wean pressors as able
   - Recommend haldol/zyprexa for agitation and taper off midazolam
   .
   # Acute renal failure
 Unclear etiology.  Thought to be
   contrast-induced +/- pre-renal etiology.  Good urine output.
   Creatinine worsened this AM.  Lytes are due to contraction alk,
   hypernatremia is noted.
   - gentle hydration (0.5L NS over an hr)
   - received free water
   - PM lytes/creatinine
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE.
   - continue BB as per cardiology recommendations.
   - goal Hct > 30
   - f/u cardiology recs (if any)
   - I/O keep even for now
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/ced amiodarone given no further events since adjusting central line
   .
   # hypercalcemia
 Resolved.  With appropriately low PTH this is likely
   from malignancy related tumor factors.  Dosed with pamidronate [**2151-3-26**],
   improving.
   - PTHrP WNL
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**].  Stable since that time.
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - PICC
   #. PPx
 HSQ, PPI, colace/senna, fent/midaz for pain
   #. Code
 DNR/DNI
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-6**] 04:54 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-04-06 12:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechancially ventilated.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-4-4**] 07:59 AM
   Meropenem - [**2151-4-6**] 12:40 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-4-6**] 07:32 AM
   Heparin Sodium (Prophylaxis) - [**2151-4-6**] 07:32 AM
   Fentanyl - [**2151-4-6**] 07:50 AM
   Haloperidol (Haldol) - [**2151-4-6**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2151-4-6**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 109 (109 - 118) bpm
   BP: 85/44(54) {85/36(54) - 129/61(105)} mmHg
   RR: 19 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.5 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  1,306 mL
                                                                    971 mL
   PO:
             TF:
                                                                    960 mL
                                                                    477 mL
   IVF:
                                                                    286 mL
                                                                    494 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    620 mL
   Urine:
                                                                  1,220 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     86 mL
                                                                    351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 498 (367 - 674) mL
   PS : 14 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 14 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   819 K/uL
   159 mg/dL
   2.4 mg/dL
   36 mEq/L
   4.4 mEq/L
   102 mg/dL
   101 mEq/L
   147 mEq/L
   23.3 %
   22.7 K/uL
        [image002.jpg]
                             [**2151-4-2**]  05:12 AM
                             [**2151-4-2**]  06:03 AM
                             [**2151-4-3**]  03:38 AM
                             [**2151-4-3**]  06:58 PM
                             [**2151-4-3**]  08:44 PM
                             [**2151-4-4**]  04:29 AM
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
                             [**2151-4-5**]  02:14 PM
                             [**2151-4-6**]  04:15 AM
   WBC
   22.6
   17.4
   18.9
   21.4
   22.7
   Hct
   27.5
   28.6
   25.9
   24.7
   23.3
   Plt
   680
   737
   778
   789
   819
   Cr
   2.2
   2.2
   2.1
   2.0
   2.1
   2.0
   2.1
   2.4
   TCO2
   39
   39
   Glucose
   164
   170
   310
   163
   154
   200
   159
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   81 yof CAD, HTN, new dx of NSCLC c/b respiratory failure.  Overall
   limited progress.
   RESPIRATORY FAILURE -- multifactorial, including RLL lung cancer, right
   pleural effusion, right pneumonia, atalectasis, underlying pulmonary
   edema from recent MI and depressed LV ejection fraction.  Plan continue
   mechanical ventilation.  Unfavorable RSBI, poor tolerace of SBT.  Poor
   progress, limited progress to date.  Monitor.  Will discuss direction
   of care
 HCP states patient would not want trach.  [**Month (only) 11**] move to
   extubation attempt
 will discuss further with HCP.
   RIGHT PLEURAL EFFUSSION
 s/p thoracentesis and pigtail placement on
   the right --> now D/C'd.  Monitor for re-accumulation.
   PNEUMONIA
 related to lung CA.  Continue empiric treatment with abx
   (vancomycin & meropenem)
   AGGITATION -- Rx agitation with antipsychotics.
   HYPOTENSION -- improving, but slowly.  Monitor BP, maintain MAP >60
   mmHg.  Vasopressor as needed.
   NUTRITIONAL SUPPORT -- TF at goal.
   ACUTE RENAL FAILURE -- contrast induced.  Maintain lasix drip. Monitor
   UO, BUN, Creatinine.  Gradual improvemennt.
   CHF -- new anterior wall motion abnormalities consistent with a new
   infarct in the territory of the LAD.  Cardiac enzymes show flat CKs and
   downtrending troponins, indicating that the acute episode has passed.
   LV EF has improved to 45% on repeat TTE.  Continue b-blocker as per
   Cardiology recommendations.
   VENTRICULAR TACHYCARDIA -- Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  Resolved.  Continue
   PO amio. Pulled back CVL.
   LFT abnormalities
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   ANEMIA -- received 2U PRBC on [**2151-3-25**].  Stable. Continue to trend Hct.
   LUNG CA
 No plans for intervention while in MICU.  Chemotherapy to be
   considered if patient able to tolerate extubation.  Outpatient f/u with
   Oncology.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-6**] 04:54 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:   Updated HCP, answered all questions.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2151-04-07 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - hypernatremic and Cr worse, so gave gentle IVF
   - Cr somewhat improved in PM
   - pressures dropping in PM (SBP ~80s), restarted levophed
   - guaiac positive stool, PM Hct 18.3, transfused 2xpRBCs -> am hct
   appropriate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-4-4**] 07:59 AM
   Meropenem - [**2151-4-6**] 11:51 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2151-4-6**] 08:40 AM
   Fentanyl - [**2151-4-6**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-7**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 107 (98 - 121) bpm
   BP: 119/31(50) {79/31(50) - 132/89(105)} mmHg
   RR: 28 (16 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.5 kg (admission): 74.4 kg
   Height: 63 Inch
           Total In:
                                                                  3,984 mL
                                                                  1,372 mL
   PO:
           TF:
                                                                    960 mL
                                                                    236 mL
   IVF:
                                                                  2,964 mL
                                                                    436 mL
   Blood products:
   700 mL
   Total out:
                                                                  1,385 mL
                                                                    525 mL
   Urine:
                                                                  1,385 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,599 mL
                                                                    847 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 542 (402 - 676) mL
   PS : 14 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: ///32/
   Ve: 11.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   704 K/uL
   7.6 g/dL
   165 mg/dL
   2.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   107 mg/dL
   103 mEq/L
   146 mEq/L
   24.9 %
   21.6 K/uL
        [image002.jpg]
                             [**2151-4-3**]  06:58 PM
                             [**2151-4-3**]  08:44 PM
                             [**2151-4-4**]  04:29 AM
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
                             [**2151-4-5**]  02:14 PM
                             [**2151-4-6**]  04:15 AM
                             [**2151-4-6**]  03:04 PM
                             [**2151-4-6**]  11:21 PM
                             [**2151-4-7**]  05:52 AM
   WBC
   18.9
   21.4
   22.7
   21.6
   Hct
   25.9
   24.7
   23.3
   18.3
   24.9
   Plt
   [**Telephone/Fax (3) 11904**]04
   Cr
   2.1
   2.0
   2.1
   2.0
   2.1
   2.4
   2.3
   2.1
   2.1
   TCO2
   39
   Glucose
   [**Telephone/Fax (3) 11905**]00
   159
   181
   163
   165
   Other labs: PT / PTT / INR:13.5/26.6/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely [**1-26**] baseline lung parenchymal
   abnormalities [**1-26**] malignancy worsened by pleural effusion (R>L).  Given
   WBC, post-obstructive PNA cannot be excluded but is less likely to
   cause respiratory failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. Pleural effusion is exudative but cytology negative for
   malignancy.   S/P IP tap and pigtail placement on the right (D/C
   [**4-2**]). CT chest shows resolving effusion. Repeat TTE on [**3-31**] shows
   improving EF and MR, and mixed venous sat is 78%, which is less
   consistent with a cardiogenic cause.
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D15 of ABX, D7 of [**Last Name (un) **]
   - tx agitation with antipsychotics
   - repeat CXR s/p pigtail removal
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, PSV as tolerated
   - continue aspirin
   - pending family meeting for goals of care (preped for extubation)
   .
   Anemia
 guiac positive stool, modest response to transfusion
   - trend
   - family meeting
   .
   # Hypotension: Patient with MAPs around 60 while on pressors
   - Avoid fluid boluses, difficult to remove volume given acute renal
   failure [**1-26**] ATN
   - Wean pressors as able
   - Recommend haldol/zyprexa for agitation and taper off midazolam
   .
   # Acute renal failure
 Unclear etiology.  Thought to be
   contrast-induced +/- pre-renal etiology.  Good urine output.
   Creatinine worsened this AM.  Lytes are due to contraction alk,
   hypernatremia is noted.
   - gentle hydration (0.5L NS over an hr)
   - received free water
   - PM lytes/creatinine
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE.
   - continue BB as per cardiology recommendations.
   - goal Hct > 30
   - f/u cardiology recs (if any)
   - I/O keep even for now
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/ced amiodarone given no further events since adjusting central line
   .
   # hypercalcemia
 Resolved.  With appropriately low PTH this is likely
   from malignancy related tumor factors.  Dosed with pamidronate [**2151-3-26**],
   improving.
   - PTHrP WNL
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**].  Stable since that time.
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - PICC
   #. PPx
 HSQ, PPI, colace/senna, fent/midaz for pain
   #. Code
 DNR/DNI
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-04-07 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Received 2 U PRBC for worsening anemia -- stool guiac + but brown.
   Required vasopressor to maintain BP control.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2151-4-6**] 11:51 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2151-4-6**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-4-7**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 106 (98 - 121) bpm
   BP: 132/56(75) {79/31(50) - 132/89(93)} mmHg
   RR: 28 (16 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.5 kg (admission): 74.4 kg
   Height: 63 Inch
           Total In:
                                                                  3,984 mL
                                                                  1,727 mL
   PO:
           TF:
                                                                    960 mL
                                                                    445 mL
   IVF:
                                                                  2,964 mL
                                                                    521 mL
   Blood products:
   700 mL
   Total out:
                                                                  1,385 mL
                                                                    665 mL
   Urine:
                                                                  1,385 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,599 mL
                                                                  1,062 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 542 (402 - 676) mL
   PS : 14 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   704 K/uL
   165 mg/dL
   2.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   107 mg/dL
   103 mEq/L
   146 mEq/L
   24.6 %
   21.6 K/uL
        [image002.jpg]
                             [**2151-4-3**]  08:44 PM
                             [**2151-4-4**]  04:29 AM
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
                             [**2151-4-5**]  02:14 PM
                             [**2151-4-6**]  04:15 AM
                             [**2151-4-6**]  03:04 PM
                             [**2151-4-6**]  11:21 PM
                             [**2151-4-7**]  05:52 AM
                             [**2151-4-7**]  09:33 AM
   WBC
   18.9
   21.4
   22.7
   21.6
   Hct
   25.9
   24.7
   23.3
   18.3
   24.9
   24.6
   Plt
   [**Telephone/Fax (3) 11904**]04
   Cr
   2.1
   2.0
   2.1
   2.0
   2.1
   2.4
   2.3
   2.1
   2.1
   Glucose
   [**Telephone/Fax (3) 11905**]00
   159
   181
   163
   165
   Other labs: PT / PTT / INR:13.5/26.6/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   81 yof CAD, HTN, new dx of NSCLC c/b respiratory failure.  Overall
   limited progress.
   RESPIRATORY FAILURE -- multifactorial, including RLL lung cancer, right
   pleural effusion, right pneumonia, atalectasis, underlying pulmonary
   edema from recent MI and depressed LV ejection fraction.  Plan continue
   mechanical ventilation.  Unfavorable RSBI, poor tolerace of SBT.  Poor
   progress, limited progress to date.  Monitor.  Will discuss direction
   of care
 HCP states patient would not want trach.  [**Month (only) 11**] move to
   extubation attempt
 will discuss further with HCP.
   RIGHT PLEURAL EFFUSSION
 s/p thoracentesis and pigtail placement on
   the right --> now D/C'd.  Monitor for re-accumulation.
   PNEUMONIA
 related to lung CA.  Continue empiric treatment with abx
   (vancomycin & meropenem)
   AGGITATION -- Rx agitation with antipsychotics.
   HYPOTENSION -- improving, but slowly.  Monitor BP, maintain MAP >60
   mmHg.  Vasopressor as needed.
   NUTRITIONAL SUPPORT -- TF at goal.
   ACUTE RENAL FAILURE -- contrast induced.  Maintain lasix drip. Monitor
   UO, BUN, Creatinine.  Gradual improvemennt.
   CHF -- new anterior wall motion abnormalities consistent with a new
   infarct in the territory of the LAD.  Cardiac enzymes show flat CKs and
   downtrending troponins, indicating that the acute episode has passed.
   LV EF has improved to 45% on repeat TTE.  Continue b-blocker as per
   Cardiology recommendations.
   VENTRICULAR TACHYCARDIA -- Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  Resolved.  Continue
   PO amio. Pulled back CVL.
   LFT abnormalities
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   ANEMIA -- received 2U PRBC more.  Continue to trend Hct.  [**Month (only) 11**] represent
   GI bleed, although NG aspirate with only TF.
   LUNG CA
 No plans for intervention while in MICU.  Chemotherapy to be
   considered if patient able to tolerate extubation.  Outpatient f/u with
   Oncology.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-4-7**] 08:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2151-04-08 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family meeting
   - pm hct stable
   - extubation in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2151-4-8**] 12:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-4-8**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-8**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.3
C (101
   Tcurrent: 36.9
C (98.5
   HR: 106 (102 - 114) bpm
   BP: 134/55(75) {99/42(60) - 138/67(82)} mmHg
   RR: 26 (20 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.8 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,506 mL
                                                                    350 mL
   PO:
             TF:
                                                                    960 mL
                                                                    170 mL
   IVF:
                                                                    786 mL
                                                                    180 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,985 mL
                                                                    450 mL
   Urine:
                                                                  1,985 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    521 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 495 (432 - 495) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: ///32/
   Ve: 10.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   638 K/uL
   7.6 g/dL
   109 mg/dL
   1.8 mg/dL
   32 mEq/L
   3.7 mEq/L
   98 mg/dL
   110 mEq/L
   152 mEq/L
   23.9 %
   20.8 K/uL
        [image002.jpg]
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
                             [**2151-4-5**]  02:14 PM
                             [**2151-4-6**]  04:15 AM
                             [**2151-4-6**]  03:04 PM
                             [**2151-4-6**]  11:21 PM
                             [**2151-4-7**]  05:52 AM
                             [**2151-4-7**]  09:33 AM
                             [**2151-4-7**]  02:20 PM
                             [**2151-4-8**]  05:18 AM
   WBC
   21.4
   22.7
   21.6
   20.8
   Hct
   24.7
   23.3
   18.3
   24.9
   24.6
   25.2
   23.9
   Plt
   789
   819
   704
   638
   Cr
   2.1
   2.0
   2.1
   2.4
   2.3
   2.1
   2.1
   1.8
   Glucose
   163
   154
   200
   159
   181
   163
   165
   109
   Other labs: PT / PTT / INR:13.5/26.6/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely [**1-26**] baseline lung parenchymal
   abnormalities [**1-26**] malignancy worsened by pleural effusion (R>L).  Given
   WBC, post-obstructive PNA cannot be excluded but is less likely to
   cause respiratory failure.  PE not appreciated on CTA.  Rad Onc, at
   this time, does not feel that radiation would be helpful in improving
   oxygenation. Pleural effusion is exudative but cytology negative for
   malignancy.   S/P IP tap and pigtail placement on the right (D/C
   [**4-2**]). CT chest shows resolving effusion. Repeat TTE on [**3-31**] shows
   improving EF and MR, and mixed venous sat is 78%, which is less
   consistent with a cardiogenic cause.
   - empiric treatment with abx (vanc/cefepime --> vanc/[**Last Name (un) **] for better
   coverage of post-obstructive pna), D15 of ABX, D7 of [**Last Name (un) **]
   - tx agitation with antipsychotics
   - repeat CXR s/p pigtail removal
   - monitor CVP, continue to wean sedation
   - pulmonary toilet, PSV as tolerated
   - continue aspirin
   - pending family meeting for goals of care (preped for extubation)
   .
   Anemia
 guiac positive stool, modest response to transfusion
   - trend
   - family meeting
   .
   # Hypotension: Patient with MAPs around 60 while on pressors
   - Avoid fluid boluses, difficult to remove volume given acute renal
   failure [**1-26**] ATN
   - Wean pressors as able
   - Recommend haldol/zyprexa for agitation and taper off midazolam
   .
   # Acute renal failure
 Unclear etiology.  Thought to be
   contrast-induced +/- pre-renal etiology.  Good urine output.
   Creatinine worsened this AM.  Lytes are due to contraction alk,
   hypernatremia is noted.
   - gentle hydration (0.5L NS over an hr)
   - received free water
   - PM lytes/creatinine
   .
   # acute heart failure
 Patient appears to have new anterior wall
   motion abnormalities consistent with a new infarct in the territory of
   the LAD.  Cardiac enzymes show flat CKs and downtrending troponins,
   indicating that the acute episode has passed. Her EF has improved to
   45% on repeat TTE.
   - continue BB as per cardiology recommendations.
   - goal Hct > 30
   - f/u cardiology recs (if any)
   - I/O keep even for now
   .
   # ventricular tachycardia
 Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  She initially had 4
   episodes over ~30 minutes which broke with amiodarone bolus + gtt.
   Completed amio gtt, continue PO amio. Pulled back CVL and VT has ceased
   - continue to monitor
   - d/ced amiodarone given no further events since adjusting central line
   .
   # hypercalcemia
 Resolved.  With appropriately low PTH this is likely
   from malignancy related tumor factors.  Dosed with pamidronate [**2151-3-26**],
   improving.
   - PTHrP WNL
   - Treat with lasix +/- fluids PRN
   .
   # anemia
 s/p transfusion of 2u pRBC on [**3-25**].  Stable since that time.
   - continue to trend Hct
   .
   #. Non-small Cell CA: Biopsy results confirmed this diagnosis.
   - outpatient f/u with Onc
   .
   # hyperlipidemia
 Statin changed to atorvastatin 80 mg/day in light of
   recent ischemic event.
   .
   #. FEN - No IVF, E- replete PRN, N- NPO ->will need to start tube feeds
   after rad-onc recs
   #. Access - PICC
   #. PPx
 HSQ, PPI, colace/senna, fent/midaz for pain
   #. Code
 DNR/DNI
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo - ICU pending clinical improvement
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-04-08 13:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Somewhat fatigued
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2151-4-8**] 12:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-4-8**] 08:32 AM
   Pantoprazole (Protonix) - [**2151-4-8**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-4-8**] 01:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 107 (99 - 114) bpm
   BP: 124/82(86) {99/42(60) - 141/108(113)} mmHg
   RR: 29 (20 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.8 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,506 mL
                                                                    711 mL
   PO:
             TF:
                                                                    960 mL
                                                                    170 mL
   IVF:
                                                                    786 mL
                                                                    361 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,985 mL
                                                                  1,050 mL
   Urine:
                                                                  1,985 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    521 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 468 (436 - 495) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: ///32/
   Ve: 13.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, S4, Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   638 K/uL
   109 mg/dL
   1.8 mg/dL
   32 mEq/L
   3.7 mEq/L
   98 mg/dL
   110 mEq/L
   152 mEq/L
   23.9 %
   20.8 K/uL
        [image002.jpg]
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
                             [**2151-4-5**]  02:14 PM
                             [**2151-4-6**]  04:15 AM
                             [**2151-4-6**]  03:04 PM
                             [**2151-4-6**]  11:21 PM
                             [**2151-4-7**]  05:52 AM
                             [**2151-4-7**]  09:33 AM
                             [**2151-4-7**]  02:20 PM
                             [**2151-4-8**]  05:18 AM
   WBC
   21.4
   22.7
   21.6
   20.8
   Hct
   24.7
   23.3
   18.3
   24.9
   24.6
   25.2
   23.9
   Plt
   789
   819
   704
   638
   Cr
   2.1
   2.0
   2.1
   2.4
   2.3
   2.1
   2.1
   1.8
   Glucose
   163
   154
   200
   159
   181
   163
   165
   109
   Other labs: PT / PTT / INR:13.5/26.6/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   81 yof CAD, HTN, new dx of NSCLC c/b respiratory failure.  Overall
   limited progress.
   RESPIRATORY FAILURE -- multifactorial, including RLL lung cancer, right
   pleural effusion, right pneumonia, atalectasis, underlying pulmonary
   edema from recent MI and depressed LV ejection fraction.  Plan continue
   mechanical ventilation.  Unfavorable RSBI, poor tolerace of SBT.  Poor
   progress, limited progress to date.  Plam move to extubation attempt
   will discuss further with HCP.
   RIGHT PLEURAL EFFUSSION
 s/p thoracentesis and pigtail placement on
   the right --> now D/C'd.  Monitor for re-accumulation.
   PNEUMONIA
 related to lung CA.  Continue empiric treatment with abx
   (vancomycin & meropenem)
   AGGITATION -- Rx agitation with antipsychotics.
   HYPOTENSION -- improving, but slowly.  Monitor BP, maintain MAP >60
   mmHg.  Vasopressor as needed.
   NUTRITIONAL SUPPORT -- TF at goal.
   ACUTE RENAL FAILURE -- contrast induced.  Maintain lasix drip. Monitor
   UO, BUN, Creatinine.  Gradual improvemennt.
   CHF -- new anterior wall motion abnormalities consistent with a new
   infarct in the territory of the LAD.  Cardiac enzymes show flat CKs and
   downtrending troponins, indicating that the acute episode has passed.
   LV EF has improved to 45% on repeat TTE.  Continue b-blocker as per
   Cardiology recommendations.
   VENTRICULAR TACHYCARDIA -- Likely triggered by CVL in RV or recent
   ischemic event +/- hypoxia/respiratory distress.  Resolved.  Continue
   PO amio. Pulled back CVL.
   LFT abnormalities
 AST, ALT ~ 100 with AST>ALT in the context of MI,
   poor forward flow and several new medications. Resolved as of [**3-29**]
   ANEMIA -- received 2U PRBC more.  Continue to trend Hct.  [**Month (only) 11**] represent
   GI bleed, although NG aspirate with only TF.
   LUNG CA
 No plans for intervention while in MICU.  Chemotherapy to be
   considered if patient able to tolerate extubation.  Outpatient f/u with
   Oncology.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-04-09 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2151-4-8**] 06:52 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2151-4-8**] 12:00 PM
   Infusions:
   Morphine Sulfate - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-4-8**] 08:32 AM
   Pantoprazole (Protonix) - [**2151-4-8**] 08:33 AM
   Lorazepam (Ativan) - [**2151-4-9**] 03:15 AM
   Morphine Sulfate - [**2151-4-9**] 05:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-9**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 92 (92 - 120) bpm
   BP: 88/44(55) {73/35(47) - 160/108(113)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                    809 mL
                                                                    162 mL
   PO:
             TF:
                                                                    170 mL
   IVF:
                                                                    459 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    385 mL
   Urine:
                                                                  1,895 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,086 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 498 (446 - 498) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 85%
   ABG: ////
   Ve: 17.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   638 K/uL
   7.6 g/dL
   109 mg/dL
   1.8 mg/dL
   32 mEq/L
   3.7 mEq/L
   98 mg/dL
   110 mEq/L
   152 mEq/L
   23.9 %
   20.8 K/uL
        [image002.jpg]
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
                             [**2151-4-5**]  02:14 PM
                             [**2151-4-6**]  04:15 AM
                             [**2151-4-6**]  03:04 PM
                             [**2151-4-6**]  11:21 PM
                             [**2151-4-7**]  05:52 AM
                             [**2151-4-7**]  09:33 AM
                             [**2151-4-7**]  02:20 PM
                             [**2151-4-8**]  05:18 AM
   WBC
   21.4
   22.7
   21.6
   20.8
   Hct
   24.7
   23.3
   18.3
   24.9
   24.6
   25.2
   23.9
   Plt
   789
   819
   704
   638
   Cr
   2.1
   2.0
   2.1
   2.4
   2.3
   2.1
   2.1
   1.8
   Glucose
   163
   154
   200
   159
   181
   163
   165
   109
   Other labs: PT / PTT / INR:13.5/26.6/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   81 yo F h/o CAD, HTN, new dx of NSCLC p/w elective bronchoscopy c/b
   respiratory failure, new systolic heart dysfunction worrisome for LAD
   infarct
   .
   # respiratory failure
 Likely due to NSCLC +/- new acute heart failure
   as well as exudative effusion of presumed malignant vs. infectious
   etiology.  Patient showed no improvement or ability to wean off vent
   after over two weeks of therapy.  Not a candidate for radiation or
   chemotherapy per Oncology.  After extended discussion with the HCP and
   the patient
s family, it was agreed to perform a terminal extubation
   and make the patient CMO.  She was extubated last night and is
   currently on morphine gtt.  Comfort measures only.
   .
   #. FEN
 tube feeds
   #. Access - PICC
   #. PPx
 none
   #. Code
 DNR/DNI
   # Communication: [**Known firstname 3083**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 11719**]
   #. Dispo
 awaiting change in clinical status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-04-09 12:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated last PM.  CMO.  Family present
   Appears comfortable.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2151-4-8**] 12:00 PM
   Infusions:
   Morphine Sulfate - 15 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2151-4-9**] 03:15 AM
   Morphine Sulfate - [**2151-4-9**] 05:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-4-9**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 108 (92 - 120) bpm
   BP: 92/41(54) {73/35(47) - 160/91(101)} mmHg
   RR: 18 (13 - 33) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.8 kg (admission): 74.4 kg
   Height: 63 Inch
             Total In:
                                                                    809 mL
                                                                    222 mL
   PO:
             TF:
                                                                    170 mL
   IVF:
                                                                    459 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    445 mL
   Urine:
                                                                  1,895 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,086 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 498 (468 - 498) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 85%
   ABG: ////
   Ve: 17.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   638 K/uL
   109 mg/dL
   1.8 mg/dL
   32 mEq/L
   3.7 mEq/L
   98 mg/dL
   110 mEq/L
   152 mEq/L
   23.9 %
   20.8 K/uL
        [image002.jpg]
                             [**2151-4-4**]  03:15 PM
                             [**2151-4-5**]  04:50 AM
                             [**2151-4-5**]  02:14 PM
                             [**2151-4-6**]  04:15 AM
                             [**2151-4-6**]  03:04 PM
                             [**2151-4-6**]  11:21 PM
                             [**2151-4-7**]  05:52 AM
                             [**2151-4-7**]  09:33 AM
                             [**2151-4-7**]  02:20 PM
                             [**2151-4-8**]  05:18 AM
   WBC
   21.4
   22.7
   21.6
   20.8
   Hct
   24.7
   23.3
   18.3
   24.9
   24.6
   25.2
   23.9
   Plt
   789
   819
   704
   638
   Cr
   2.1
   2.0
   2.1
   2.4
   2.3
   2.1
   2.1
   1.8
   Glucose
   163
   154
   200
   159
   181
   163
   165
   109
   Other labs: PT / PTT / INR:13.5/26.6/1.2, CK / CKMB /
   Troponin-T:12/3/0.15, ALT / AST:27/25, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:33/36, Differential-Neuts:85.7 %, Lymph:7.1 %,
   Mono:4.8 %, Eos:2.2 %, Fibrinogen:719 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:194 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   81 yof CAD, HTN, new dx of NSCLC c/b respiratory failure.  Overall
   limited progress.
   RESPIRATORY FAILURE -- multifactorial, including RLL lung cancer, right
   pleural effusion, right pneumonia, atalectasis, underlying pulmonary
   edema from recent MI and depressed LV ejection fraction.  Poor
   progress, limited progress to date.  Comfortable s/p extubation.
   RIGHT PLEURAL EFFUSSION
 s/p thoracentesis and pigtail placement on
   the right --> now D/C'd.
   PNEUMONIA
 related to lung CA.  Completed empiric treatment with abx.
   AGGITATION -- comfortable on morphine.
   NUTRITIONAL SUPPORT -- TF off.
   LUNG CA -- comfort care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-3-29**] 02:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes